2200-04-07 08:00:00 Physician Resident Progress Note
Chief Complaint: 67M h/o ESLD [**2-8**] polycystic liver disease, ESRD s/p
   bilateral nephrectomy, COPD [**2-8**] emphysema, transferred to [**Hospital1 54**] for
   respiratory distress.
   24 Hour Events:
   - Intubated for respiratory distress
   - Tachycardic to 180 --> Diltiazem 10mg IV x2 administered with
   response
   - Pressors (vasopressin, norepinephrine, phenylephrine) added for SBP
   70s
   - Hydrocortisone 100 mg IV Q8H started for hypotension
   - IVF: NS, then 150meq bicarb + D5W to avoid hyperchloremic metabolic
   acidosis
   - Bedside echo: RV enlarged, with ?WMA; EKG S1Q3T3 --> concern for PE
   - CTA: No PE, extensive mucus plugging, atelectasis
   - Femoral temporary HD line placed to prepare for CVVH
   - Norepinephrine now weaning
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2200-4-6**] 05:00 PM
   Vancomycin - [**2200-4-6**] 05:45 PM
   Metronidazole - [**2200-4-7**] 04:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2200-4-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-7**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.1
C (96.9
   HR: 99 (99 - 139) bpm
   BP: 103/65(79) {76/54(62) - 109/71(84)} mmHg
   RR: 33 (16 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
    CVP: 16 (16 - 41)mmHg
   CO/CI (Fick): (28.2 L/min) / (13.1 L/min/m2)
   CO/CI (CCO): (5.4 L/min) / (2.5 L/min/m2)
   SvO2: 90%
   Mixed Venous O2% Sat: 88 - 88
   Total In:
                                                                  2,816 mL
                                                                  2,346 mL
   PO:
   TF:
   IVF:
                                                                  2,803 mL
                                                                  1,472 mL
   Blood products:
                                                                    874 mL
   Total out:
                                                                    250 mL
                                                                    290 mL
   Urine:
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,566 mL
                                                                  2,056 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 90%
   RSBI Deferred: FiO2 > 60%
   PIP: 36 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.17/49/94.[**Numeric Identifier 128**]/17/-10
   Ve: 17.7 L/min
   PaO2 / FiO2: 104
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Cold BLE (Right radial pulse: Present), (Left
   radial pulse: Present), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), Coarse breath sounds
   bilaterally
   Abdominal: Non-tender, Bowel sounds present, Distended, Enlarged cystic
   liver
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   291 K/uL
   14.2 g/dL
   216 mg/dL
   6.1 mg/dL
   17 mEq/L
   5.8 mEq/L
   48 mg/dL
   100 mEq/L
   134 mEq/L
   45.1 %
   22.2 K/uL
        [image002.jpg]
                             [**2200-4-6**]  02:27 PM
                             [**2200-4-6**]  08:20 PM
                             [**2200-4-6**]  09:22 PM
                             [**2200-4-6**]  11:36 PM
                             [**2200-4-7**]  12:40 AM
                             [**2200-4-7**]  03:13 AM
                             [**2200-4-7**]  03:28 AM
                             [**2200-4-7**]  04:12 AM
                             [**2200-4-7**]  05:12 AM
   WBC
   22.2
   Hct
   37.6
   47.0
   42
   45
   45.1
   Plt
   291
   Cr
   6.7
   6.1
   TropT
   0.15
   0.13
   0.13
   TCO2
   25
   25
   21
   17
   17
   19
   Glucose
   63
   60
   57
   216
   Other labs: PT / PTT / INR:54.0/58.1/6.3, CK / CKMB /
   Troponin-T:157/3/0.13, ALT / AST:253/389, Alk Phos / T Bili:71/2.0,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:366 mg/dL, Lactic
   Acid:4.7 mmol/L, Albumin:3.8 g/dL, LDH:1160 IU/L, Ca++:6.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:8.1 mg/dL
   Imaging: [**4-7**] CTA pelvis/chest/abdomen +/- contrast: No PE. Pulmonary
   HTN with enlarged main PA/RV, cardiomegaly, emphysema, extensive
   atherosclerosis, coronary disease.  Atelectasis of dependent lower
   lobes, submerged in pleural fluid.  Mucous plugging @ LL bronchus,
   segmental branches.  Partial plugging of RLL segmental airways.
   Anasarca with ascites, body wall edema.  Massively enlarged multicystic
   liver.  S/P B nephrectomy. Diverticulosis, no definite diverticulitis.
   Microbiology: [**4-6**] blood cx pending
   [**4-7**] stool cx pending
   [**4-6**] DFA swab pending
   Assessment and Plan
   67M h/o ESRD s/p B nephrectomy [**2-8**] polycystic kidney disease on HD,
   ESLD [**2-8**] polycystic liver disease, admitted myalgias, fever, cough, LLL
   infiltrate on CXR, now intubated [**2-8**] hypoxic respiratory failure, and
   hypotensive requiring pressors.
   .
   # Hypoxia: Pt's initial presentation considered likely [**2-8**] pulmonary
   infection (viral or bacterial PNA, or influenza with possible 2ndry
   infection).  Other considerations included possible flash pulmonary
   edema [**2-8**] cardiogenic insult, CHF, PE, COPD exacerbation, cardiogenic
   shock.  Given rising lactate, fever, and findings on CTA/CXR, likely
   diagnosis (1) acute pulmonary infection, now complicated by ARDS, with
   (2) chronic pulmonary HTN [**2-8**] underlying emphysema/COPD.
   - ARDS [**2-8**] pulmonary infection: Started on vancomycin, cefepime,
   levofloxacin, metronidazole, as well as oseltamivir.  Consider
   bronchoscopy especially given mucus plugging.  Follow sputum, and
   maintain abx (cefepime, vancomycin, levofloxacin, metronidazole) for at
   least 10 days given pt's immunocompromise [**2-8**] liver failure.
   Oseltamivir 75mg [**Hospital1 **] x5 days (DFA pending).  Currently appears to be
   rapidly progressing to ARDS per (1) bilateral CXR findings, (2)
   PaO2/FiO2 <200mmHg, although (3) unknown whether pulmonary capillary
   wedge pressure (measure of L atrial pressure) is <=18mmHG.
   - Pulmonary HTN [**2-8**] emphysema: Massively dilated RV with enlarged
   pulmonary artery evidence for pulmonary HTN [**2-8**] emphysema, with
   resultant probable compromise of LV.  Consider placing Swan Ganz
   catheter to assess PA pressures and CO as Vigileo does not accurately
   measure CO in Afib.
   - ?Respiratory failure [**2-8**] cardiogenic shock: Repeat echo to confirm
   bedside echo findings.  CEs elevated but flat in context of renal
   failure.
   - ?PE: CTA demonstrated no PE (bedside echo had shown enlarged RV thus
   triggering concern for PE).
   - ?Fluid overload/CHF: CTA not consistent with fluid overload/CHF.
   - ?COPD exacerbation: Possible contribution given infection; on
   hydrocortisone 100 mg IV Q8H for hypotension but will aid in decreasing
   airway inflammation
   - Supportive care: Nebs, suction, chest PT
   - Vent management: Maintain high rate to decrease acidosis.  Use
   ARDSnet protocol given concern for development of ARDS.
   .
   # Hypotension: Likely [**2-8**] septic shock, now requiring three pressors
   with IVF, with norepinephrine being weaned off given pt's tachycardia.
   Source pulmonary most likely, although ?SBP given ascites (no liver
   abscess per CTA).  Hypovolemia contributing given pt's dry clinical
   exam, although no signs of hemorrhage.  CE's flat although elevated
   (renal failure), bedside echo could not definitively r/o WMA.
   - Hold on repleting fluids given enlarged RV
   - Steroids: Hydrocortisone x3 days, to achieve MAP>60
   - Pressor goal: Weaning norepinephrine
   - ?SBP: Hold on diagnostic tap, as started levofloxacin which should
   cover GNR
   - ?Cardiogenic shock: Repeat echo (CEs have been flat)
   .
   # Distended abdomen: Markedly and newly distended on clinical exam,
   concern for SBO, ileus, or bowel perforation (especially given rising
   lactate)
   - Measure bladder pressure (no urine needed)
   - KUB
   .
   # Metabolic acidosis: Likely [**2-8**] septic shock, with increasing lactate,
   resulting in increasing K (although concern for bowel pathology).
   Respiratory rate increased to 32 but further increases limited by
   autopeep.
   .
   # Shock liver:  Extreme elevation in AST/ALT, LDH, total bilirubin,
   likely [**2-8**] hypotension.
   - Trend LFTs; maintain MAPs>60
   .
   # ESLD: No outpatient hepatologist.  CTA demonstrated no abscess.
   - Liver service consulted; consider transplant suitability
   .
   # Elevated INR: Question [**2-8**] DIC, but fibrinogen and haptoglobin WNL.
   Increase in INR may be [**2-8**] shock liver.  Pt given FFP for HD catheter
   placement.
   .
   # Elevated K: Likely [**2-8**] metabolic acidosis.  Use kayexalate, calcium
   gluconate/insulin/glucose, bicarb to lower.  Expecting to undergo CVVH
   today.
   .
   # Afib with RVR: On digoxin and warfarin as home regimen, with recently
   stopped BB [**2-8**] low BP.  Amiodarone gtt to control RVR, holding warfarin
   (note amiodarone IV solution can decrease BP).
   .
   # EKG changes: Lateral ST depressions likely rate related; trending
   CEs.  Hold ASA given HD procedures, will need outpt ASA, statin.
   .
   # ESRD: s/p bilateral nephrectomy on HD.  Received temporary HD
   catheter at femoral site.  CVVH planned today.
   .
   # FEN:
   - NPO for now, but once able to tolerate PO's
   .
   # Full code
   ICU Care
   Nutrition: NPO currently
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2200-4-6**] 02:00 PM
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   20 Gauge - [**2200-4-7**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: Ranitidine
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending resolution of sx

2200-04-07 08:34:00 Physician Attending Progress Note
Chief Complaint: sepsis, resp failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PRESEP CATHETER - START [**2200-4-6**] 02:12 PM
 ULTRASOUND - At [**2200-4-6**] 05:54 PM
 INVASIVE VENTILATION - START [**2200-4-6**] 07:00 PM
 ARTERIAL LINE - START [**2200-4-6**] 10:00 PM
   Critically ill overnight with shock refractory to pressors and Afib
   with RVR.
   Stat Echo: Dilated right ventricle with severe RV systolic dysfunction.
   Probable mild left ventricular systolic dysfunction. Heavily calcified
   valves.
   Stat CTA neg for PE,  + atelectasis and mucus plugging
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2200-4-6**] 05:00 PM
   Vancomycin - [**2200-4-6**] 05:45 PM
   Metronidazole - [**2200-4-7**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Neosynephrine -
   Other ICU medications:
   Dextrose 50% - [**2200-4-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: fevers, hypotension,
   Flowsheet Data as of  [**2200-4-7**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.8
C (98.3
   HR: 100 (96 - 139) bpm
   BP: 105/71(84) {76/54(62) - 114/74(89)} mmHg
   RR: 30 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
   CVP: 22 (16 - 41)mmHg
   CO/CI (Fick): (14.1 L/min) / (6.6 L/min/m2)
   CO/CI (CCO): (5.7 L/min) / (2.7 L/min/m2)
   SvO2: 90%
   Mixed Venous O2% Sat: 88 - 88
                                Total In:
                                                                  3,499 mL
                                                                  5,096 mL
   PO:
                                TF:
   IVF:
                                                                  3,387 mL
                                                                  3,936 mL
   Blood products:
   1,160 mL
   Total out:
                                                                    250 mL
                                                                    290 mL
   Urine:
   NG:
   250 mL
   Stool:
   Drains:
   Balance:
                                                                  3,249 mL
                                                                  4,807 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 90%
   RSBI Deferred: FiO2 > 60%
   PIP: 36 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.17/49/94.[**Numeric Identifier 128**]/17/-10
   Ve: 17.7 L/min
   PaO2 / FiO2: 134
   Physical Examination
   Lying in bed, intubated and sedated
   Irreg irreg no murmurs
   Fair air movement, no wheezes
   Abd: significantly distended with palp masses in RUQ
   Ext: Bounding large left arm fistula
   Labs / Radiology
   14.2 g/dL
   291 K/uL
   216 mg/dL
   6.1 mg/dL
   17 mEq/L
   5.8 mEq/L
   48 mg/dL
   100 mEq/L
   134 mEq/L
   45.1 %
   22.2 K/uL
        [image002.jpg]
                             [**2200-4-6**]  02:27 PM
                             [**2200-4-6**]  08:20 PM
                             [**2200-4-6**]  09:22 PM
                             [**2200-4-6**]  11:36 PM
                             [**2200-4-7**]  12:40 AM
                             [**2200-4-7**]  03:13 AM
                             [**2200-4-7**]  03:28 AM
                             [**2200-4-7**]  04:12 AM
                             [**2200-4-7**]  05:12 AM
   WBC
   22.2
   Hct
   37.6
   47.0
   42
   45
   45.1
   Plt
   291
   Cr
   6.7
   6.1
   TropT
   0.15
   0.13
   0.13
   TCO2
   25
   25
   21
   17
   17
   19
   Glucose
   63
   60
   57
   216
   Other labs: PT / PTT / INR:54.0/58.1/6.3, CK / CKMB /
   Troponin-T:157/3/0.13, ALT / AST:253/389, Alk Phos / T Bili:71/2.0,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:366 mg/dL, Lactic
   Acid:4.7 mmol/L, Albumin:3.8 g/dL, LDH:1160 IU/L, Ca++:6.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   67 yr old man with renal and kidney disease presents with hypoxemic
   resp distress and hypotension
   1.       Shock: Sepsis is primary concern given rigors and hypotension.
   DDx influenza, check DFA, isolate, atypicals. Would also consider abd
   source, US without ascities. Awiating formal read of Abd CT but no
   obvious ruptured or infected kidney or liver cyst. HD chronic via
   fistula but considering bacteremia. While cardiogenic etiology may be
   contributing given horrible RV- suspect it may not be all acute but
   seems less likely
 given dil PA, neg CTA for acute PE. Non invasive CO
   - ? reliability given Afib and fistula. Broad spectrum ABX with Vanco,
   Cefipime, Levoquin, and Flagyl
                           :Shock and bad RV
 is RV overloaded and
   impairing lV filling. Options PA line, would need FFP and tech
                            challenging due to wide open TR and hige RV.
   Empiric inhaled NO and possibly running slightly neg with
                             CVVHD  to unload the RV
 i.e run negative to
   CVVHD even on pressors and assess impact.
                           : check KUB for abd distension, trend lactate,
   consider surgical consult if ABD CT/KUB abnl or worsening lactate
   2.       ARDS: DDx initial infectious etiologies are of primary concern
   started  without focal infiltrates makes viral and atypicals higher on
   list. Now bilat fluffly infiltrates. Pulm edema with RVR also
   concerning and with ESRD we cannot diuresis but will need CVVHD for
   help with that.
                            : Vent strategy ARDSNET
 now on CMV, place
   esophageal balloon to better assess tranpulmonary pressure
                            :  Continue high PEEP low TV, try to wean FIO2
   as tolerated.
   3.       Afib with RVR- likely exacerbation in setting of sepsis.
   Maintained on dig and bblocker at home
 we are Amio loading now. Is
   anti coag
  Does have lat ECG changes when going fast and flat CK but
   + trop . ASA statin, bblocker when able. Follow up formal read on Echo.
   4.       ESRD: for CVVHD this AM
 would favor trials to get some
   volume off, renally dose all meds, watch K
   5.       ESLD: LFTs are rising but in setting of shock, abd US without
   ascites, hepatology following. Await formal read of CT-
   6.       High inr: was anticoag then shock and quinolone, getting FFP
   for procedures
   ICU Care
   Nutrition: TFs to start pending KUB and other
   Glycemic Control:  SSRI
   Lines:
   18 Gauge - [**2200-4-6**] 02:00 PM
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   20 Gauge - [**2200-4-7**] 02:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:  wide was updated last PM but would like to meet with her
   again to discuss her grave condition
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60
   Patient is critically ill

2200-04-08 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2200-4-7**] 11:00 AM
   Bedside echocardiogram
   esophageal balloon - pressure -6mmHg
   bladder pressure 10mmHg
   weaning norepi
   CVVH running
   change vent fi02 50%, peep 10
   tamiflu dose changed to daily w/ renal dosing
   melanotic--then maroon bloody stools
   - lactate stable
   - KUB unchanged
   - hct stable
   - iNR elevated: ffp x 2 given, PPI IV, sub Q vitk
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-6**] 05:45 PM
   Cefipime - [**2200-4-7**] 04:56 PM
   Metronidazole - [**2200-4-8**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Fentanyl - 100 mcg/hour
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-8**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.2
   HR: 103 (87 - 109) bpm
   BP: 107/65(81) {83/53(63) - 116/74(89)} mmHg
   RR: 26 (26 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
    CVP: 17 (16 - 34)mmHg
   CO/CI (Fick): (29.2 L/min) / (13.6 L/min/m2)
   CO/CI (CCO): (6.2 L/min) / (2.9 L/min/m2)
   SvO2: 90%
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  8,288 mL
                                                                  1,481 mL
   PO:
   TF:
   IVF:
                                                                  7,078 mL
                                                                    940 mL
   Blood products:
                                                                  1,160 mL
                                                                    541 mL
   Total out:
                                                                  3,449 mL
                                                                  1,995 mL
   Urine:
   NG:
                                                                    350 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  4,839 mL
                                                                   -514 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 490 (490 - 490) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.28/44/85.[**Numeric Identifier 128**]/20/-5
   Ve: 13.4 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   13.7 g/dL
   168 mg/dL
   4.8 mg/dL
   20 mEq/L
   5.4 mEq/L
   44 mg/dL
   99 mEq/L
   135 mEq/L
   42.7 %
   13.1 K/uL
        [image002.jpg]
                             [**2200-4-7**]  03:02 PM
                             [**2200-4-7**]  05:33 PM
                             [**2200-4-7**]  08:54 PM
                             [**2200-4-7**]  09:19 PM
                             [**2200-4-8**]  12:00 AM
                             [**2200-4-8**]  12:28 AM
                             [**2200-4-8**]  12:43 AM
                             [**2200-4-8**]  01:59 AM
                             [**2200-4-8**]  05:49 AM
                             [**2200-4-8**]  06:22 AM
   WBC
   13.0
   13.1
   Hct
   43.5
   42.7
   Plt
   208
   220
   Cr
   4.8
   TCO2
   19
   20
   20
   22
   21
   22
   Glucose
   174
   168
   Other labs: PT / PTT / INR:48.7/45.7/5.5, CK / CKMB /
   Troponin-T:157/3/0.13, ALT / AST:1710/3118, Alk Phos / T Bili:88/2.8,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:366 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:3.5 g/dL, LDH:2352 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.4 mg/dL
   Fluid analysis / Other labs: Diff N 93% L 3.8 M 3.0  E 0.1
   Lactate 3.3, 3.3, 3.8, 3.6, 4.3, 4.7, 5.0, 4.2, 3.2,
   Imaging: [**4-7**]: portable abdomen: CONCLUSION:  No free air.  No obvious
   evidence for small bowel obstruction. The mildly distended left colon
   may represent an element of ileus.
   [**4-7**] CTA:
   IMPRESSION:
   1.  No evidence of pulmonary embolism.  Cardiomegaly with prominence of
   the
   right heart and enlargement of the main pulmonary artery suggestive of
   pulmonary hypertension.
   2.  Right lower lobe consolidation/volume loss.  Left lower lobe with
   consolidation or volume loss and occluded left lower bronchus.
   3.  Diffuse emphysematous changes.
   4.  Small bilateral pleural effusions.  Ascites.  Anasarca.
   5.  Massively enlarged multicystic liver.  Status post bilateral
   nephrectomy.
   6.  Sigmoid diverticulosis without definite evidence of diverticulitis.
   7.  Cystic changes in both femoral heads and acetabula.  Differential
   includes
   benign bone lesions, changes secondary to hyperparathyroidism.
   Comparison is
   recommended with old studies if available.
   8.  Cholelithiasis without definite evidence of cholecystitis.
   9.  Right lower quadrant diverting ileostomy.  No evidence of
   obstruction.
   10.  NG tube and ET tube in proper placement.
   Microbiology: [**4-7**] stool cultures pending. campylobacter pending. no
   ova and parasites. c diff negative.
   DFA positive for flu A
   blood cultures pending
   Assessment and Plan
   67M h/o ESRD s/p B nephrectomy [**2-8**] polycystic kidney disease on HD,
   ESLD [**2-8**] polycystic liver disease, admitted myalgias, fever, cough, LLL
   infiltrate on CXR, now intubated [**2-8**] hypercarbic  respiratory failure,
   and hypotensive requiring pressors.
   # Hypercarbia: Pt's initial presentation considered likely [**2-8**]
   pulmonary infection, and patient found to be influenza A positive.
   Other considerations included possible flash pulmonary edema [**2-8**]
   cardiogenic insult, CHF, PE, COPD exacerbation, cardiogenic shock.
   Given rising lactate, fever, and findings on CTA/CXR, likely diagnosis
   (1) influenza A, now complicated by ARDS, with (2) chronic pulmonary
   HTN [**2-8**] underlying emphysema/COPD.
   - Influeza A: continue Tamiflu 75mg daily (given ESRD). day [**2-11**] (day 1
   [**4-7**])
   - can discontinue flagyl and levaquin.  Also on vancomycin renally
   dosed and cefepime.
   - ARDS secondary to influenza: vent at ARDS settings as blood pressure
   tolerates. Currently at low peep given hypotension
   - esophageal balloon pressure is negative implying PEEP is too low, but
   not tolerated high secondary to hypotension
   - ARDs per (1) bilateral CXR findings, (2) PaO2/FiO2 <200mmHg, although
   (3) unknown whether pulmonary capillary wedge pressure (measure of L
   atrial pressure) is <=18mmHG.
   - Pulmonary HTN [**2-8**] emphysema: Massively dilated RV with enlarged
   pulmonary artery evidence for pulmonary HTN [**2-8**] emphysema, with
   resultant probable compromise of LV.  Consider placing Swan Ganz
   catheter to assess PA pressures and CO as Vigileo does not accurately
   measure CO in Afib.
   - ?Respiratory failure [**2-8**] cardiogenic shock: f/u echo to confirm
   bedside echo findings.
   - PE ruled out  by CTA
   - ?COPD exacerbation: Possible contribution given infection; on
   hydrocortisone 100 mg IV Q8H for hypotension but will aid in decreasing
   airway inflammation
   - Supportive care: Nebs, suction, chest PT
   - Vent management:continue high rate to decrease acidosis.  Use ARDSnet
   protocol given concern for development of ARDS. increase peep as
   tolerated
   # Hypotension: Likely [**2-8**] septic shock from influenza and possible
   other etiology, now requiring three pressors with IVF, with
   norepinephrine being weaned off given pt's tachycardia.  Source
   pulmonary most likely, although ?SBP given ascites (no liver abscess
   per CTA).  Hypovolemia contributing given pt's dry clinical exam,
   although no signs of hemorrhage.  CE's flat although elevated (renal
   failure), bedside echo could not definitively r/o WMA.'
   - on and off norepinepherine throughout the night 0.02 this AM.
   Phenylephrine 4.0 and vasopressin
   - Hold on repleting fluids given enlarged RV
   - Steroids: Hydrocortisone x3 days, to achieve MAP>60
   - Pressor goal: Weaning norepinephrine as tolerated
   - ?SBP: Hold on diagnostic tap, as started levofloxacin which should
   cover GNR
   - ?Cardiogenic shock: f/u echo
   # Distended abdomen: Markedly and newly distended on clinical exam,
   concern for SBO, ileus, or bowel perforation (especially given rising
   lactate)
   - bladder pressure 10mmgHg -- within normal limits
   - KUB showing no air underdiaphragm, likely ileus
   - NG tube to suction
   # ESRD: s/p bilateral nephrectomy on HD.  Received temporary HD
   catheter at femoral site.  CVVH running
   - 75 cc off/hour
   # Metabolic acidosis: Likely [**2-8**] septic shock, with now decreasing
   lactate. Respiratory rate increased to 32 but further increases limited
   by autopeep.
   # Shock liver:  Extreme elevation in AST/ALT, LDH, total bilirubin,
   likely [**2-8**] hypotension.
   - Trend LFTs; maintain MAPs>60
   # ESLD: No outpatient hepatologist.  CTA demonstrated no abscess.
   - Liver service consulted; consider transplant suitability
   # Elevated INR: Question [**2-8**] DIC, but fibrinogen and haptoglobin WNL.
   Increase in INR may be [**2-8**] shock liver.  Pt given FFP for HD catheter
   placement.
   # Elevated K: Likely [**2-8**] metabolic acidosis.  Use kayexalate, calcium
   gluconate/insulin/glucose, bicarb to lower.  Expecting to undergo CVVH
   today.
   # Afib with RVR: On digoxin and warfarin as home regimen, with recently
   stopped BB [**2-8**] low BP.
   - Amiodarone gtt 0.5/hour to control RVR (note amiodarone IV solution
   can decrease BP)
   - consider switching to PO
   - holding warfarin.
   # EKG changes: Lateral ST depressions likely rate related; trending
   CEs.  Hold ASA given HD procedures, will need outpt ASA, statin.
   - no need to follow cardiac enzymes.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2200-4-6**] 02:00 PM
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   20 Gauge - [**2200-4-7**] 02:00 AM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-08 08:50:00 Physician Attending Progress Note
Chief Complaint: septic shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2200-4-7**] 11:00 AM
   Bedside echocardiogram
   initiated on CVVHD, running 75 cc neg/hr
   bloody output from ostomy, inr 5, given FFP, stable lactate and KUB
   able to wean lenophed to almost off
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-6**] 05:45 PM
   Cefipime - [**2200-4-7**] 04:56 PM
   Metronidazole - [**2200-4-8**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-8**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-8**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 98 (87 - 109) bpm
   BP: 105/62(78) {83/53(63) - 116/72(86)} mmHg
   RR: 32 (26 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
   CVP: 16 (16 - 34)mmHg
   CO/CI (Fick): (29.2 L/min) / (13.6 L/min/m2)
   CO/CI (CCO): (5.6 L/min) / (2.6 L/min/m2)
   SvO2: 90%
   Bladder pressure: 12 (10 - 12) mmHg
                                Total In:
                                                                  8,288 mL
                                                                  1,642 mL
   PO:
                                TF:
   IVF:
                                                                  7,078 mL
                                                                  1,076 mL
   Blood products:
                                                                  1,160 mL
                                                                    541 mL
   Total out:
                                                                  3,449 mL
                                                                  3,148 mL
   Urine:
   NG:
                                                                    350 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  4,839 mL
                                                                 -1,506 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 490 (490 - 490) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.28/44/85.[**Numeric Identifier 128**]/21/-5
   Ve: 13.4 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Lying in bed, intubated and sedated
   Irreg irreg no murmurs
   Fair air movement, no wheezes
   Abd: significantly distended with palp masses in RUQ
   Ext: Bounding large left arm fistula
   Neuro: sedated, not responding to tactile stim
   Labs / Radiology
   13.7 g/dL
   220 K/uL
   155 mg/dL
   4.2 mg/dL
   21 mEq/L
   4.9 mEq/L
   41 mg/dL
   95 mEq/L
   132 mEq/L
   42.7 %
   13.1 K/uL
        [image002.jpg]
                             [**2200-4-7**]  03:02 PM
                             [**2200-4-7**]  05:33 PM
                             [**2200-4-7**]  08:54 PM
                             [**2200-4-7**]  09:19 PM
                             [**2200-4-8**]  12:00 AM
                             [**2200-4-8**]  12:28 AM
                             [**2200-4-8**]  12:43 AM
                             [**2200-4-8**]  01:59 AM
                             [**2200-4-8**]  05:49 AM
                             [**2200-4-8**]  06:22 AM
   WBC
   13.0
   13.1
   Hct
   43.5
   42.7
   Plt
   208
   220
   Cr
   4.8
   4.2
   TCO2
   19
   20
   20
   22
   21
   22
   Glucose
   174
   168
   155
   Other labs: PT / PTT / INR:38.0/43.6/4.1, CK / CKMB /
   Troponin-T:272/3/0.13, ALT / AST:1792/2867, Alk Phos / T Bili:96/3.0,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:366 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:3.7 g/dL, LDH:2070 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.8 mg/dL
   Imaging: CXR: worsening bilat interstial infitrates and right effusion
   ETT in good position as is R IJ
   Microbiology: Influenza A positive
   Blood cx neg to date
   Stool pending
   C diff negative
   Assessment and Plan
   67 yr old man with renal and kidney disease presents with hypoxemic
   resp distress and hypotension
   1.       Shock: Sepsis due to Influenza +/- secondary bacterial
   infection however his shock is complicated by
                  RV overload, pulm HTN, and likely impaired LV filling.
   We are using CVVHD  to unload the RV
 i.e run negative to
                  CVVHD even on  pressors and assess impact. Thus far
   getting him negative we have been weaning pressors
                    : we have considered risk versus benefit of PA line,
   challenging due to wide open TR  and big RV. Will place if
                      we stop being able to wean pressors
                    : Another option would be empiric inhaled NO to unload
   RV.
                           : KUB + abd distension, trend lactate,
   surgical consulted
                           : Broad spectrum ABX with Vanco, Cefipime,
   Levoquin, and Flagyl
   2.       ARDS  : with underlying emphysema and
   Influenza
                      : Vent strategy ARDSNET
 now on CMV, placed eso
   balloon and got TP of -6 to 01 on 18 PEEP and -9 to -4
                         on 10 PEEP. In light of excellent oxygenation,
   minimal improvement with large PEEP swings and shock hold\
                         at lowest PEEP needed. Reshoot esophageal
   balloon.
                             :  wean FIO2
   3.       Afib with RVR- likely exacerbation in setting of sepsis.
   Getting Amio- held Dig. Auto anti coag
  Did have lat ECG changes when
   going fast and flat CK but + trop . No ASA bleeding, no statin shock
   liver.
   4.     ESRD: on CVVH
 would favor trials to get some volume off,
   renally dose all meds, watch K
   5.     ESLD: LFTs are rising but in setting of shock, abd US without
   ascites, hepatology following.
   6.       High inr: was anticoag then shock and quinolone, getting FFP
   for procedures
   ICU Care
   Nutrition: NPO given abd distension, may be able to readdress this
   afternoon with very low dose TFs vs TPN initiation
   Glycemic Control:  SSRI
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   20 Gauge - [**2200-4-7**] 02:00 AM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: (anti coag )
   Stress ulcer: PPI
   VAP: HOB< chlorhex HOB
   Comments:
   Communication:  meet with wife yesterday. [**Name2 (NI) **] would want a full
   treatment for reversible illness but is DNR.  He would not want to ever
   have to live in a nursing home or long term care facility
 I discussed
   his grave prognosis and stated we would need to readdress this on a
   daily basis.
   Code status: DNR
   Disposition : ICU
   Total time spent: 60

2200-04-09 06:39:00 Physician Resident Progress Note
Chief Complaint: 67M h/o ESLD/ESRD [**2-8**] polycystic kidney disease, ARDS
   [**2-8**] influenza, pulmonary HTN, on levofloxacin (day1 = [**4-6**]),
   oseltamivir (day1 = [**4-6**]), cefepime (day1 = [**4-6**])
   24 Hour Events:
   ** Please note that fluid output is listed incorrectly in flowsheet as
   it does not account for HD; pt is approx 2L negative for [**4-8**])
   - FiO2 reduced to 40% (from 50%) --> ABG: 7.29/43/87
   - PEEP down to 8 (from 10) --> ABG: 7.37/38/90/23 --> ABG: 7.39/40/75
   - Pressor support: Off norepinephrine, phenylephrine weaned down to
   1.5, remains on vasopressin
   - Metronidazole, steriods d/c'd
   - CVVH output increased from 75cc/hr to +100cc/hr in the AM, around
   11pm back to 75cc/hr
   - Surgery consult --> not a surgical candidate
   - Per pharm, amiodarone can be discontinued after loading, and start PO
   when tolerating PO. No need for IV boluses given very long half life.
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-6**] 05:45 PM
   Metronidazole - [**2200-4-8**] 04:00 AM
   Levofloxacin - [**2200-4-8**] 11:19 AM
   Cefipime - [**2200-4-8**] 04:04 PM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-8**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-9**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 71 (62 - 100) bpm
   BP: 104/57(75) {84/50(62) - 119/69(89)} mmHg
   RR: 28 (27 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
    CVP: 14 (14 - 18)mmHg
   CO/CI (Fick): (15 L/min) / (7 L/min/m2)
   CO/CI (CCO): (5.6 L/min) / (2.6 L/min/m2)
   SvO2: 88%
   Bladder pressure: 12 (11 - 12) mmHg
   Total In:
                                                                  4,118 mL
                                                                    637 mL
   PO:
   TF:
   IVF:
                                                                  2,936 mL
                                                                    637 mL
   Blood products:
                                                                  1,097 mL
   Total out:
                                                                  7,504 mL
                                                                    848 mL
   Urine:
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,386 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 490 (490 - 490) mL
   Vt (Spontaneous): 836 (836 - 836) mL
   RR (Set): 28
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 70 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/45/90.[**Numeric Identifier 128**]/22/0
   Ve: 12.6 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: Bilaterally)
   Abdominal: Soft, Non-tender, Distended, Hepatomegaly
   Extremities: Cold BLE
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   160 K/uL
   12.1 g/dL
   116 mg/dL
   3.2 mg/dL (decreasing)
   22 mEq/L
   4.4 mEq/L
   34 mg/dL
   96 mEq/L
   133 mEq/L
   36.4 %
   7.8 K/uL
        [image002.jpg]  Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
                             [**2200-4-8**]  01:59 AM
                             [**2200-4-8**]  05:49 AM
                             [**2200-4-8**]  06:22 AM
                             [**2200-4-8**]  12:17 PM
                             [**2200-4-8**]  03:06 PM
                             [**2200-4-8**]  06:15 PM
                             [**2200-4-8**]  10:02 PM
                             [**2200-4-8**]  10:27 PM
                             [**2200-4-9**]  04:04 AM
                             [**2200-4-9**]  04:28 AM
   WBC
   13.1
   9.8
   7.8
   Hct
   42.7
   39.5
   36.4
   Plt
   220
   199
   160
   Cr
   4.2
   3.7
   3.2
   TropT
   0.07
   TCO2
   21
   22
   22
   23
   25
   26
   Glucose
   155
   148
   150
   136
   116
   Other labs: PT / PTT / INR:33.3/39.5/3.5 (decreasing INR)
   ALT / AST:1311/1089 (both decreasing), Alk Phos / T Bili:100/3.2
   (increased)
   Fibrinogen:467 mg/dL (increasing)
   Lactate 2.5 <-- 3.2
   LDH:588 IU/L (decreasing)
   Haptoglobin 182 <-- 192
   CK / CKMB / Troponin-T:5 (CKMB flat) /0.07 (TropT decreasing, peak
   0.15)
   Imaging: [**4-9**] CXR pending final read
   [**4-9**] abdomen supine pending final read
   [**4-7**] Echocardiogram:  LV not well seen. The left ventricular cavity is
   unusually small. Focal wall motion abnormality cannot be fully
   excluded. Overall left ventricular systolic function is mildly
   depressed (LVEF= 45-50 %). RV moderately dilated with severe global
   free wall hypokinesis. Abnormal septal motion/position. No aortic valve
   stenosis, aortic regurgitation. MV leaflets mildly thickened; no MR.
   Mild PA systolic HTN.  The estimated pulmonary artery systolic pressure
   is slightly lower but is probably unreliable given poor image quality.
   Microbiology: [**4-8**] sputum Gram stain: No microorg
   [**4-6**] blood cx pending
   [**4-7**] fecal cx, O/P, campylobacter pending
   Assessment and Plan
   67M h/o ESLD/ESRD [**2-8**] polycystic kidney disease, ARDS [**2-8**] influenza,
   pulmonary HTN, on levofloxacin (day1 = [**4-6**]), oseltamivir (day1 =
   [**4-6**]), cefepime (day1 = [**4-6**])
   ARDS: Pt has ARDS secondary to influenza A. Also involved is RV failure
   and pulmonary hypertension, most likely secondary to underlying
   emphysema/COPD.
   - Vent: vent at ARDS settings. Patient tolerated FiO2 of 40% (from 50%)
   this AM, will decrease PEEP to 8.
   - Influeza A: continue Tamiflu 75mg daily (given ESRD). day [**2-11**] (day 1
   [**4-7**])
   - discontinue flagyl
   - Continue vancomycin, levaquin and cefepime until cultures negative
   for 48-72 hours.
   - f/u esophageal balloon pressure
   - Pulmonary HTN [**2-8**] emphysema: Massively dilated RV with enlarged
   pulmonary artery evidence for pulmonary HTN [**2-8**] emphysema, with
   resultant probable compromise of LV.  Will contact outpatient
   cardiologist and pulmonolgist for history of this
   - Will consider swan if unable to wean off pressors.
   - Respiratory failure [**2-8**] cardiogenic shock: f/u echo to confirm
   bedside echo findings.
   - PE ruled out  by CTA
   - likely not COPD exacerbation, d.c steroids
   - Supportive care: Nebs, suction, chest PT
   2.       ARDS  : with underlying emphysema and
   Influenza
                      : Vent strategy ARDSNET
 now on CMV, placed eso
   balloon and got TP of -6 to 01 on 18 PEEP and -9 to -4
                         on 10 PEEP. In light of excellent oxygenation,
   minimal improvement with large PEEP swings and shock hold\
                         at lowest PEEP needed. Reshoot esophageal
   balloon.
                             :  wean FIO2
   Hypotension: Likely [**2-8**] septic shock from influenza and possible other
   etiology, now off of norepinephrine. Also has cardiac etiology given rt
   ventricle failure impeding his LV output.
   - patient now off norepinephrine
   - plan to discontinue vasopressin, then wean off phenylephrine
   - d/c steroids
   - ?Cardiogenic shock: f/u echo
   1.       Shock: Sepsis due to Influenza +/- secondary bacterial
   infection however his shock is complicated by
                  RV overload, pulm HTN, and likely impaired LV filling.
   We are using CVVHD  to unload the RV
 i.e run negative to
                  CVVHD even on  pressors and assess impact. Thus far
   getting him negative we have been weaning pressors
                    : we have considered risk versus benefit of PA line,
   challenging due to wide open TR  and big RV. Will place if
                      we stop being able to wean pressors
                    : Another option would be empiric inhaled NO to unload
   RV.
                           : KUB + abd distension, trend lactate,
   surgical consulted
                           : Broad spectrum ABX with Vanco, Cefipime,
   Levoquin, and Flagyl
   Distended abdomen: Markedly and newly distended on clinical exam,
   concern for SBO, ileus, or bowel perforation (especially given rising
   lactate). Considering ischemic bowel given lactate while in CVVH.
   - bladder pressure 10mmgHg -- within normal limits
   - KUB showing no air underdiaphragm, likely ileus
   - NG tube to suction
   - surgery consult appreciated: not surgical candidate
   ESRD: s/p bilateral nephrectomy on HD.  Received temporary HD catheter
   at femoral site.  CVVH running
   - increase to 100cc/hr out
   Metabolic acidosis: likely secondary to lactic acidosis. Lactic acid
   decreasing, but in the setting of CVVH, posible that that patient has
   ischemic bowel. Surgery consult appreciated
   Shock liver:  Extreme elevation in AST/ALT, LDH, total bilirubin,
   likely [**2-8**] hypotension.
   - Trend LFTs; maintain MAPs>60
   ESLD: No outpatient hepatologist.  CTA demonstrated no abscess.
   - Liver service consulted; consider transplant suitability
   Elevated INR: Question [**2-8**] DIC, but fibrinogen and haptoglobin WNL.
   Increase in INR may be [**2-8**] shock liver.  Pt given FFP for HD catheter
   placement.
   - FFP as needed
   - DIC labs [**Hospital1 **]
   Afib with RVR: On digoxin and warfarin as home regimen, with recently
   stopped BB [**2-8**] low BP.
   - change amiodarone to IV BID dosing
   - d/c digoxin while in CVVH
   - holding warfarin.
   3.       Afib with RVR- likely exacerbation in setting of sepsis.
   Getting Amio- held Dig. Auto anti coag
  Did have lat ECG changes when
   going fast and flat CK but + trop . No ASA bleeding, no statin shock
   liver.
   4.     ESRD: on CVVH
 would favor trials to get some volume off,
   renally dose all meds, watch K
   5.     ESLD: LFTs are rising but in setting of shock, abd US without
   ascites, hepatology following.
   6.       High inr: was anticoag then shock and quinolone, getting FFP
   for procedures
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   20 Gauge - [**2200-4-7**] 02:00 AM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Pantoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2200-04-09 10:54:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, shock, influenza
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Seen by surgery
   CVVH -- negative two liters
   Pressors weaned substantially
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-6**] 05:45 PM
   Metronidazole - [**2200-4-8**] 04:00 AM
   Levofloxacin - [**2200-4-8**] 11:19 AM
   Cefipime - [**2200-4-8**] 04:04 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-9**] 07:39 AM
   Other medications:
   gabapentin (held), versed, nephrocaps (held), tamiflu, fentanyl, MDIs,
   SQI, cefepime, vanco, PPI, levoflox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-9**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 66 (62 - 86) bpm
   BP: 107/53(73) {84/48(62) - 119/69(89)} mmHg
   RR: 28 (27 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
   CVP: 20 (14 - 20)mmHg
   SvO2: 88%
   Bladder pressure: 12 (11 - 12) mmHg
   Total In:
                                                                  4,117 mL
                                                                  1,193 mL
   PO:
   TF:
   IVF:
                                                                  2,935 mL
                                                                  1,163 mL
   Blood products:
                                                                  1,097 mL
   Total out:
                                                                  7,504 mL
                                                                  1,345 mL
   Urine:
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,387 mL
                                                                   -152 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 490 (490 - 490) mL
   Vt (Spontaneous): 836 (836 - 836) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 70 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/45/90.[**Numeric Identifier 128**]/22/0
   Ve: 13.6 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Sedated.
   Heart is regular.
   Breath sounds are clear anteriorly but decreased at the left base.
   Abdomen is soft.
   Fistula is present.  Scant edema.
   Labs / Radiology
   12.1 g/dL
   160 K/uL
   116 mg/dL
   3.2 mg/dL
   22 mEq/L
   4.4 mEq/L
   34 mg/dL
   96 mEq/L
   133 mEq/L
   36.4 %
   7.8 K/uL
        [image002.jpg]
                             [**2200-4-8**]  01:59 AM
                             [**2200-4-8**]  05:49 AM
                             [**2200-4-8**]  06:22 AM
                             [**2200-4-8**]  12:17 PM
                             [**2200-4-8**]  03:06 PM
                             [**2200-4-8**]  06:15 PM
                             [**2200-4-8**]  10:02 PM
                             [**2200-4-8**]  10:27 PM
                             [**2200-4-9**]  04:04 AM
                             [**2200-4-9**]  04:28 AM
   WBC
   13.1
   9.8
   7.8
   Hct
   42.7
   39.5
   36.4
   Plt
   220
   199
   160
   Cr
   4.2
   3.7
   3.2
   TropT
   0.07
   TCO2
   21
   22
   22
   23
   25
   26
   Glucose
   155
   148
   150
   136
   116
   Other labs: PT / PTT / INR:33.3/39.5/3.5, CK / CKMB /
   Troponin-T:272/5/0.07, ALT / AST:1311/1089, Alk Phos / T Bili:100/3.2,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:467 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:3.7 g/dL, LDH:588 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: "In  comparison  with  study  of  [**4-8**],  there  is
   little  change  or  possibly
   some  progression  of  the  diffuse  bilateral  pulmonary
   opacifications.
   Generalized  haziness  suggests  substantial  pleural  effusions
   bilaterally.    The tubes  remain  in  place."
   Echo [**4-7**]: limited study. Probably some decrement in LVEF. RV dilation
   and free wall HK.
   Microbiology: C diff negative x 1
   Assessment and Plan
   67 yr old man with chronic renal and kidney disease now with
   respiratory failure and shock secondary to influenza and possibly
   bacterial superinfection.
   Shock
          Sepsis due to influenza +/- secondary bacterial infection.
          Treat influenza
          However his shock is complicated by apparent RV volume
   overload, and it appears likely that his RV was off his Starling curve
   since his pressor requirement has decreased in the setting of being
   quite negative with CVVHD.
          Appreciate surgery
s help and thoughts.
          We will begin to wean antibiotics today.  Check vancomycin
   level.
   Respiratory failure
   With underlying emphysema and Influenza
   Hypoxemia improving.  We will try PSV today.
   Afib with RVR
   Likely exacerbation in setting of sepsis.   Although amiodarone confers
   some risk of hepatic toxicity, we will continue it at present given his
   ongoing challenging hemodynamics.  Adequately rate controlled at this
   point.
   ESRD
   On CVVH
   Liver disease
   By history, he has end-stage liver disease.  However, there is an acute
   component of ischemic hepatitis (shock liver) as well.  Hepatology is
   following; will discuss amiodarone with them.
   Coagulopathy
   Likely related to shock, synthetic dysfunction, and warfarin in the
   setting of receiving quinolone and amiodarone
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   20 Gauge - [**2200-4-7**] 02:00 AM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: Boots(coagulopathy)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2200-04-10 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Clarified with renal why we want to remove more fluid
   - Vancomycin dosing by level: Received one dose [**4-9**]
   - AFib/RVR: 140s, amiodarone 150mg IV x1, amio PO
   - Pressors: Both pressors off less than one hour, then phenylephrine
   on; vasopressin completely off
   - Vent mgt: Did well on PS trial.  Turned off sedation.  pO2 went to
   65, and therefore FiO2 turned to 50%.  RSBI 96 on PS [**5-15**].
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2200-4-8**] 04:00 AM
   Levofloxacin - [**2200-4-8**] 11:19 AM
   Vancomycin - [**2200-4-9**] 03:06 PM
   Cefipime - [**2200-4-9**] 04:09 PM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-9**] 08:30 PM
   Fentanyl - [**2200-4-10**] 06:00 AM
   Midazolam (Versed) - [**2200-4-10**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-10**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 93 (65 - 132) bpm
   BP: 91/51(63) {83/43(55) - 119/65(82)} mmHg
   RR: 21 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
    CVP: 12 (9 - 20)mmHg
   CO/CI (Fick): (16.5 L/min) / (7.7 L/min/m2)
   CO/CI (CCO): (7.2 L/min) / (3.4 L/min/m2)
   SvO2: 88%
   Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  2,885 mL
                                                                    624 mL
   PO:
   TF:
   IVF:
                                                                  2,795 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                  3,648 mL
                                                                    717 mL
   Urine:
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -763 mL
                                                                    -93 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 490 (490 - 490) mL
   Vt (Spontaneous): 531 (459 - 994) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.45/37/65/24/1
   Ve: 13 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   103 K/uL
   11.7 g/dL
   99 mg/dL
   2.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   31 mg/dL
   96 mEq/L
   133 mEq/L
   35.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2200-4-8**]  10:27 PM
                             [**2200-4-9**]  04:04 AM
                             [**2200-4-9**]  04:28 AM
                             [**2200-4-9**]  10:28 AM
                             [**2200-4-9**]  12:21 PM
                             [**2200-4-9**]  06:19 PM
                             [**2200-4-9**]  09:56 PM
                             [**2200-4-9**]  10:24 PM
                             [**2200-4-10**]  04:00 AM
                             [**2200-4-10**]  04:33 AM
   WBC
   7.8
   5.1
   Hct
   36.4
   35.6
   Plt
   160
   103
   Cr
   3.2
   2.6
   TCO2
   25
   26
   25
   25
   26
   26
   27
   Glucose
   116
   99
   99
   Other labs: PT / PTT / INR:33.3/39.5/3.5, CK / CKMB /
   Troponin-T:272/5/0.07, ALT / AST:1311/1089, Alk Phos / T Bili:100/3.2,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:588 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Imaging: [**4-9**] KUB: IMPRESSION:  Air filled distended loops of left colon
   not significantly
   changed from prior exam.
   Microbiology: [**2200-4-8**] -  sputum sparse growth oropharyngeal flora
   [**4-7**] - ova parasites negative c diff negative many RBCs
   Assessment and Plan
   67M h/o ESLD/ESRD [**2-8**] polycystic kidney disease, ARDS [**2-8**] influenza,
   pulmonary HTN, on levofloxacin (day1 = [**4-6**]), oseltamivir (day1 =
   [**4-6**]), cefepime (day1 = [**4-6**]), vancomycin (day1 = [**4-6**], dosing by
   level)
   Respiratory failure: ARDS [**2-8**] influenza (?secondary bacterial
   infection), pulmonary HTN [**2-8**] emphysema/COPD.
   - Vent goal:  patient tolerating [**5-15**] 40% pulling volumes 400-500s. wean
   sedation, try [**5-12**], try SBT later today.
   - Influeza A: Oseltamivir 75mg daily (renal dosing) x5 days (day
   1=[**4-7**])
   - ?Secondary bacterial infection: Given (1) CT lung findings of
   consolidations and effusions, (2) sputum negative but after abx given,
   continue vancomycin, levofloxacin, cefepime x 10 days.
   - Pulmonary HTN [**2-8**] emphysema: Outpatient pulmonologist Smyrnios
   ([**Hospital1 1945**]) [**0-0-**].
   - Supportive care: Nebs, suction, chest PT
   Hypotension: Off norepinephrine and vasopression. on phenylephrine
   only, very low dose this AM., with resolving septic shock [**2-8**]
   influenza, RV overload/LV compromise.
   - Goal: Continue removing fluid, wean off phenylephrine completely
   today
   - ?Cardiogenic shock: Per outpatient cardiologist [**First Name4 (NamePattern1) 98**] [**Last Name (NamePattern1) **]
   ([**Location (un) 1946**]), [**Telephone/Fax (1) 1947**], previous echos did not demonstrate WMA, or
   extent of RV enlargement evidenced on most recent echo.
   Thrombocytopenia: Fibrinogen and haptoglobin WNL, INR likely [**2-8**] shock
   liver, but platelets continue to decrease.  FFP for procedures. Patient
   has very low probability for HIT given 4 T
s criteria. Will not order
   HIT antibody at this time. Possible etiologies include medication
   toxicity and hepativ failure.
   - DIC labs daily
   Distended abdomen: Abdomen continues distended but stable.  Lactate
   trending down (CVVH but lactate production apparently also decreased).
   Initial bladder pressure WNL at 10mmgHg.
   - Nutrition: Continue NPO as pt persists with residuals, concern for
   necrotic bowel
   - NG tube to suction
   ESRD: s/p bilateral nephrectomy on outpatient HD.  Temporary HD
   catheter at femoral site.  On CVVH.
   - 75cc/hr out
   ESLD c/b shock liver:  STABLE.  No outpatient hepatologist.  CTA
   demonstrated no abscess.  Extreme elevation in AST/ALT, LDH, total
   bilirubin [**2-8**] hypotension.
   - LFTs trending down; maintain MAPs>60
   Afib with RVR: STABLE.  Home regimen of digoxin and warfarin, both
   being held (holding digoxin as on CVVH, holding warfarin as bleeding).
   - Amiodarone PO dosing
   - No ASA (bleeding), no statin (shock liver)
   ICU Care
   Nutrition:
   Comments: NPO for now given ? necrotic bowel
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   20 Gauge - [**2200-4-7**] 02:00 AM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2200-04-10 10:31:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   AFib with RVR --> rebolused
   Pressors titrated to off, but now back on.
   On PSV.
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2200-4-8**] 04:00 AM
   Levofloxacin - [**2200-4-8**] 11:19 AM
   Vancomycin - [**2200-4-9**] 03:06 PM
   Cefipime - [**2200-4-9**] 04:09 PM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2200-4-10**] 06:00 AM
   Fentanyl - [**2200-4-10**] 07:30 AM
   Pantoprazole (Protonix) - [**2200-4-10**] 08:00 AM
   Other medications:
   MDIs, SQI, CHG, cefepime, tamiflu, amiodarone, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-10**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 107 (65 - 132) bpm
   BP: 120/65(81) {83/43(55) - 120/65(82)} mmHg
   RR: 29 (10 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
   CVP: 9 (9 - 16)mmHg
   Total In:
                                                                  2,885 mL
                                                                    866 mL
   PO:
   TF:
   IVF:
                                                                  2,795 mL
                                                                    726 mL
   Blood products:
   Total out:
                                                                  3,648 mL
                                                                  1,089 mL
   Urine:
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -763 mL
                                                                   -223 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 649 (459 - 994) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 14 cmH2O
   Plateau: 9 cmH2O
   Compliance: 490 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/37/65/24/1
   Ve: 16.1 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), fistulae
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   11.7 g/dL
   103 K/uL
   99 mg/dL
   2.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   31 mg/dL
   96 mEq/L
   133 mEq/L
   35.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2200-4-8**]  10:27 PM
                             [**2200-4-9**]  04:04 AM
                             [**2200-4-9**]  04:28 AM
                             [**2200-4-9**]  10:28 AM
                             [**2200-4-9**]  12:21 PM
                             [**2200-4-9**]  06:19 PM
                             [**2200-4-9**]  09:56 PM
                             [**2200-4-9**]  10:24 PM
                             [**2200-4-10**]  04:00 AM
                             [**2200-4-10**]  04:33 AM
   WBC
   7.8
   5.1
   Hct
   36.4
   35.6
   Plt
   160
   103
   Cr
   3.2
   2.6
   TCO2
   25
   26
   25
   25
   26
   26
   27
   Glucose
   116
   99
   99
   Other labs: PT / PTT / INR:33.3/39.5/3.5, CK / CKMB /
   Troponin-T:272/5/0.07, ALT / AST:1311/1089, Alk Phos / T Bili:100/3.2,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:588 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   67 yr old man with chronic renal and kidney disease now with
   respiratory failure and shock secondary to influenza and possibly
   bacterial superinfection.  His respiratory status and shock have
   improved, but his mental status remains depressed.
   Shock
          Sepsis due to influenza +/- secondary bacterial infection.
          Treat influenza
          Day 5 / 10 for presumptive bacterial superinfection (cx
   obtained after antibiotics)
          I suspect we have gotten back toward the right area of his
   RV Starling curve.  Will run about even or only very slightly negative
   today.
   Respiratory failure
   With underlying emphysema and Influenza
   Doing well, but mental status prevents extubation trial at present
   Afib with RVR
   Likely exacerbation in setting of sepsis.
   Still challenging to manage
   Discuss amiodarone with liver team.  If they are concerned, consult EP
   for recommendations for other anti-arrythmics, given his underlying
   liver disease.
   ESRD
   On CVVH.  Will keep even to slightly negative today
   Abdominal distention
   Put NG to suction
   Liver disease
   By history, he has end-stage liver disease.  However, there is an acute
   component of ischemic hepatitis (shock liver) as well.  Hepatology is
   following; will discuss amiodarone with them.
   Coagulopathy
   Likely related to shock, synthetic dysfunction, and warfarin in the
   setting of receiving quinolone and amiodarone
   ICU Care
   Nutrition: try TF today
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   20 Gauge - [**2200-4-7**] 02:00 AM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: Boots(INR > 3)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 40 minutes
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   [**2200-4-10**] 6:00 PM
   Mr. [**Known lastname 1902**] came fully off of vasopressors earlier today.  However,
   This evening, Mr. [**Known lastname 1902**]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] rate increased to 120s/130s.  EKG
   revealed substantial ST depressions, particularly anteriorly.  On exam,
   it appeared that, although he was quite synchronous with the
   ventilator, that he was pulling significantly negative intrathoracic
   pressure during inspiration
 as evidenced by a fall in CVP of about
   6mm Hg during early inspiration.  We therefore proceeded through a
   number of maneuvers to try to match his inspiratory demand, such as
   changing flow rates, etc.  We ended up with a pressure-cycled A/C
   mode.  With this, his swings in CVP were substantially less noticeable
   and his heart rate fell to the 100s.  His cardiogram showed some
   improvement in his ST depressions, although they persisted.  We will
   therefore gently try esmolol for better rate control.
   I discussed these issues with his wife at bedside.
   Critical Care Time: 45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2200-4-11**] 12:19 AM ------

2200-04-11 06:32:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   HIT score 1, so no hit antibody sent, heparin kept on
   increased tachy, tachypneic: 7.337/43/63
   aprv maneuver to recruit alveoli
   switched to a/c to help figure out if decompensation was resp or
   cardiac or other ?
   for HR, w/ progressive ST depressions, added esmolol for better
   control, was little low BP w/ 50, so switched to 25.
   hypotensive....250 cc NS bolus x 3.  amio gtts d/c'd. esmolol d/c'd
   next.
   increased abd distention, kub w/ increased colonic dilation.  surgery
   called, rectal tube placed and left open to equilibrate w/ atmospheric
   pressure
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-8**] 11:19 AM
   Vancomycin - [**2200-4-10**] 01:27 PM
   Cefipime - [**2200-4-10**] 04:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2200-4-10**] 07:30 AM
   Pantoprazole (Protonix) - [**2200-4-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-11**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 98 (88 - 130) bpm
   BP: 110/54(70) {90/48(61) - 125/69(85)} mmHg
   RR: 31 (21 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
    CVP: 11 (7 - 20)mmHg
   Bladder pressure: 8 (8 - 8) mmHg
   Total In:
                                                                  2,804 mL
                                                                  1,668 mL
   PO:
   TF:
   IVF:
                                                                  2,614 mL
                                                                  1,668 mL
   Blood products:
   Total out:
                                                                  3,031 mL
                                                                  1,142 mL
   Urine:
   NG:
                                                                    200 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -227 mL
                                                                    526 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   Vt (Set): 600 (400 - 600) mL
   Vt (Spontaneous): 666 (140 - 666) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 40
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 9 cmH2O
   SpO2: 99%
   ABG: 7.44/34/113/22/0
   Ve: 16.5 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   [**Doctor Last Name **] hard hepatomegaly w/ cysts
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   79 K/uL
   10.7 g/dL
   76 mg/dL
   2.4 mg/dL
   22 mEq/L
   3.6 mEq/L
   30 mg/dL
   100 mEq/L
   136 mEq/L
   32.6 %
   4.1 K/uL
        [image002.jpg]
                             [**2200-4-10**]  04:33 AM
                             [**2200-4-10**]  09:52 AM
                             [**2200-4-10**]  02:59 PM
                             [**2200-4-10**]  03:09 PM
                             [**2200-4-10**]  05:47 PM
                             [**2200-4-10**]  06:51 PM
                             [**2200-4-10**]  07:00 PM
                             [**2200-4-10**]  09:48 PM
                             [**2200-4-10**]  10:15 PM
                             [**2200-4-11**]  03:21 AM
   WBC
   4.1
   Hct
   32.6
   Plt
   79
   Cr
   2.7
   2.5
   2.4
   TropT
   0.04
   0.04
   0.03
   TCO2
   27
   26
   24
   25
   24
   Glucose
   89
   93
   77
   76
   Other labs: PT / PTT / INR:18.5/34.8/1.7, CK / CKMB /
   Troponin-T:250/5/0.03, ALT / AST:650/400, Alk Phos / T Bili:90/3.4,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:400 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Micro
   [1][**2200-4-10**]
   STOOL
   OVA + PARASITES-PENDING
   INPATIENT
   [2][**2200-4-10**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN ASSAY-PENDING
   INPATIENT
   [3][**2200-4-8**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [4][**2200-4-7**]
   STOOL
   OVA + PARASITES-FINAL
   INPATIENT
   [5][**2200-4-7**]
   STOOL
   FECAL CULTURE-FINAL; CAMPYLOBACTER CULTURE-FINAL; OVA +
   PARASITES-FINAL; CLOSTRIDIUM DIFFICILE TOXIN ASSAY-FINAL
   INPATIENT
   [6][**2200-4-6**]
   Influenza A/B by DFA
   DIRECT INFLUENZA A ANTIGEN TEST-FINAL; DIRECT INFLUENZA B ANTIGEN
   TEST-FINAL
   INPATIENT
   [7][**2200-4-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [8][**2200-4-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   Rads
   Kub + cxr reviewed
   Assessment and Plan
   67M h/o ESLD/ESRD [**2-8**] polycystic kidney disease, ARDS [**2-8**] influenza,
   pulmonary HTN, on levofloxacin (day1 = [**4-6**]), oseltamivir (day1 =
   [**4-6**]), cefepime (day1 = [**4-6**]), vancomycin (day1 = [**4-6**], dosing by
   level)
   Respiratory failure: ARDS [**2-8**] influenza (?secondary bacterial
   infection), pulmonary HTN [**2-8**] emphysema/COPD.
   - Vent goal:  patient tolerating [**5-15**] 40% pulling volumes 400-500s. wean
   sedation, try [**5-12**], try SBT later today.
   - Influeza A: Oseltamivir 75mg daily (renal dosing) x5 days (day
   1=[**4-7**])
   - ?Secondary bacterial infection: Given (1) CT lung findings of
   consolidations and effusions, (2) sputum negative but after abx given,
   continue vancomycin, levofloxacin, cefepime x 10 days.
   - Pulmonary HTN [**2-8**] emphysema: Outpatient pulmonologist Smyrnios
   ([**Hospital1 1945**]) [**0-0-**].
   - Supportive care: Nebs, suction, chest PT
   Hypotension: Off norepinephrine and vasopression. on phenylephrine
   only, very low dose this AM., with resolving septic shock [**2-8**]
   influenza, RV overload/LV compromise.
   - Goal: Continue removing fluid, wean off phenylephrine completely
   today
   - ?Cardiogenic shock: Per outpatient cardiologist [**First Name4 (NamePattern1) 98**] [**Last Name (NamePattern1) **]
   ([**Location (un) 1946**]), [**Telephone/Fax (1) 1947**], previous echos did not demonstrate WMA, or
   extent of RV enlargement evidenced on most recent echo.
   Thrombocytopenia: Fibrinogen and haptoglobin WNL, INR likely [**2-8**] shock
   liver, but platelets continue to decrease.  FFP for procedures. Patient
   has very low probability for HIT given 4 T
s criteria. Will not order
   HIT antibody at this time. Possible etiologies include medication
   toxicity and hepativ failure.
   - DIC labs daily
   Distended abdomen: Abdomen continues distended but stable.  Lactate
   trending down (CVVH but lactate production apparently also decreased).
   Initial bladder pressure WNL at 10mmgHg.
   - Nutrition: Continue NPO as pt persists with residuals, concern for
   necrotic bowel
   - NG tube to suction
   ESRD: s/p bilateral nephrectomy on outpatient HD.  Temporary HD
   catheter at femoral site.  On CVVH.
   - 75cc/hr out
   ESLD c/b shock liver:  STABLE.  No outpatient hepatologist.  CTA
   demonstrated no abscess.  Extreme elevation in AST/ALT, LDH, total
   bilirubin [**2-8**] hypotension.
   - LFTs trending down; maintain MAPs>60
   Afib with RVR: STABLE.  Home regimen of digoxin and warfarin, both
   being held (holding digoxin as on CVVH, holding warfarin as bleeding).
   - Amiodarone PO dosing
   - No ASA (bleeding), no statin (shock liver)
   ICU Care
   Nutrition:
   Glycemic Control:  npo; no tube feeds w/ distention, decreased bowel
   sounds
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   20 Gauge - [**2200-4-7**] 02:00 AM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: pantoprazole iv bid
   VAP:  chlorhex, mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: unit
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);

2200-04-11 10:18:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued Heparin (less likely to be HIT)
   Increasing tachypneic (changed to PC)
   ST changes  (strain pattern thought [**2-8**] increase work of breathing)
   Afib with RVR
   increasing colonic distension (10 cm) --> rectal tube placed.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-8**] 11:19 AM
   Vancomycin - [**2200-4-10**] 01:27 PM
   Cefipime - [**2200-4-10**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   colace, gabapentin, CHG, PPI, tamiflu, vanco, amio, esmolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-11**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 98 (88 - 130) bpm
   BP: 110/54(70) {90/48(61) - 125/69(85)} mmHg
   RR: 31 (26 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
   CVP: 11 (7 - 20)mmHg
   Bladder pressure: 8 (8 - 8) mmHg
   Total In:
                                                                  2,804 mL
                                                                  2,254 mL
   PO:
   TF:
   IVF:
                                                                  2,614 mL
                                                                  2,254 mL
   Blood products:
   Total out:
                                                                  3,031 mL
                                                                  1,630 mL
   Urine:
   NG:
                                                                    200 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -227 mL
                                                                    624 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   Vt (Set): 600 (400 - 600) mL
   Vt (Spontaneous): 666 (140 - 666) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.44/34/113/22/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), fistulae
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : scant)
   Abdominal: Soft, Distended, palpable cysts are firm
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   79 K/uL
   76 mg/dL
   2.4 mg/dL
   22 mEq/L
   3.6 mEq/L
   30 mg/dL
   100 mEq/L
   136 mEq/L
   32.6 %
   4.1 K/uL
        [image002.jpg]
                             [**2200-4-10**]  04:33 AM
                             [**2200-4-10**]  09:52 AM
                             [**2200-4-10**]  02:59 PM
                             [**2200-4-10**]  03:09 PM
                             [**2200-4-10**]  05:47 PM
                             [**2200-4-10**]  06:51 PM
                             [**2200-4-10**]  07:00 PM
                             [**2200-4-10**]  09:48 PM
                             [**2200-4-10**]  10:15 PM
                             [**2200-4-11**]  03:21 AM
   WBC
   4.1
   Hct
   32.6
   Plt
   79
   Cr
   2.7
   2.5
   2.4
   TropT
   0.04
   0.04
   0.03
   TCO2
   27
   26
   24
   25
   24
   Glucose
   89
   93
   77
   76
   Other labs: PT / PTT / INR:18.5/34.8/1.7, CK / CKMB /
   Troponin-T:250/5/0.03, ALT / AST:650/400, Alk Phos / T Bili:90/3.4,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:400 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Imaging: CXR pending
   KUB showed significant colonic distention
   Assessment and Plan
   67 yr old man with chronic renal and kidney disease now with
   respiratory failure and shock secondary to influenza and possibly
   bacterial superinfection.  His respiratory status and shock improved,
   but last night he had an episode of tachycardia/tachpnea/ST
   depressions.
   Shock - improved
          Sepsis due to influenza +/- secondary bacterial infection.
          Treat influenza.  Recheck DFA to ensure virus has cleared.
          Day 6 / 10 for presumptive bacterial superinfection (cx
   obtained after antibiotics)
          Run even today
   Respiratory failure
   With underlying emphysema and Influenza
   Doing well, but mental status and cardiac issues prevent extubation
   trial at present
   Try PSV today
   Afib with RVR
   Likely exacerbation in setting of sepsis.
   Still challenging to manage
   Liver reports that amiodarone is acceptable in his condition
   Esmolol as needed for rate control
   ESRD
   On CVVH.  Will keep even and discuss with renal today.
   Abdominal distention
   NG to suction
   Ask liver/GI to comment
   Liver disease
   By history, he has end-stage liver disease.  However, there is an acute
   component of ischemic hepatitis (shock liver) as well.  Hepatology is
   following.
   Coagulopathy
   Likely related to shock, synthetic dysfunction, and warfarin in the
   setting of receiving quinolone and amiodarone
   ST depressions
   -          Recheck EKG.  Troponins reassuring.  Continue rate control
   as needed
   Thrombocytopenia
   -          check HIT
   -          hold heparin products
   -          keep antibiotics and other things in ddx.  If continues to
   fall and HIT (-), stop vanco.
   ICU Care
   Nutrition: try trophic tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   20 Gauge - [**2200-4-7**] 02:00 AM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: Boots(platelets falling -- will hold all heparin products)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
    Discussed with wife last night.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2200-04-12 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Metoprolol 25 TID, got 5mg IV PRN
   - RIJ is heparin coated, HD line is NOT.
   - IV nurse could not get IV line, IR would not do it because of
   emergent case. will optimize medications in terms of thromboyctopenia,
   and possible place new central line tomorrow with heparin free line.
   - EKG shows persistent but improving ST depressions in V2 v3 V4.
   - discontinued antibiotics- vanco and cefepime, s/p 6 day courses.
   - unable to extubate because heart rate not adequately controlled
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-10**] 01:27 PM
   Cefipime - [**2200-4-11**] 04:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-12**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 91 (78 - 104) bpm
   BP: 118/59(78) {110/54(70) - 155/83(106)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
    CVP: 9 (9 - 16)mmHg
   Bladder pressure: 11 (9 - 17) mmHg
   Total In:
                                                                  4,824 mL
                                                                  1,262 mL
   PO:
   TF:
   IVF:
                                                                  4,614 mL
                                                                  1,262 mL
   Blood products:
   Total out:
                                                                  6,081 mL
                                                                  2,119 mL
   Urine:
                                                                    173 mL
                                                                      8 mL
   NG:
                                                                     50 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,257 mL
                                                                   -857 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 675 (675 - 675) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.45/34/111/23/0
   Ve: 14.7 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Abd: pain to palpation of liver, large cystic liver palpable, positive
   BS.
   Peripheral Vascular: all pulses palpable
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Labs / Radiology
   100 K/uL
   11.0 g/dL
   76 mg/dL
   2.1 mg/dL
   23 mEq/L
   3.6 mEq/L
   27 mg/dL
   99 mEq/L
   135 mEq/L
   33.4 %
   5.4 K/uL
        [image002.jpg]
                             [**2200-4-10**]  10:15 PM
                             [**2200-4-11**]  03:21 AM
                             [**2200-4-11**]  10:38 AM
                             [**2200-4-11**]  10:52 AM
                             [**2200-4-11**]  03:22 PM
                             [**2200-4-11**]  03:43 PM
                             [**2200-4-11**]  08:51 PM
                             [**2200-4-11**]  09:15 PM
                             [**2200-4-12**]  02:27 AM
                             [**2200-4-12**]  03:13 AM
   WBC
   4.1
   5.4
   Hct
   32.6
   33.4
   Plt
   79
   100
   Cr
   2.4
   2.5
   2.3
   2.1
   TropT
   0.03
   0.04
   TCO2
   24
   24
   24
   23
   24
   Glucose
   76
   86
   82
   83
   76
   Other labs: PT / PTT / INR:17.3/31.4/1.6, CK / CKMB /
   Troponin-T:207/5/0.04, ALT / AST:475/245, Alk Phos / T Bili:92/4.7,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Fluid analysis / Other labs: ALT/ALT 472/425
   LDH 268
   tbili 4.7
   INR 1.6
   Microbiology: [**4-10**] O&p negative
   [**4-10**] c diff negative
   Assessment and Plan
   67M h/o ESLD/ESRD [**2-8**] polycystic kidney disease, ARDS [**2-8**] influenza,
   pulmonary HTN, on oseltamivir (day1 = [**4-6**]), cefepime (day1 = [**4-6**]),
   vancomycin (day1 = [**4-6**], dosing by level).
   Hypotension: Patient hypotensive again today with sbps in the 70s, not
   resolving with small fluid boluses, patient put back in phenylephrine.
   Considering medication effect since we have been rapidly uptitrating
   her bblocker in order to control her rate before he is extubated. He
   also had an axillary temp today of 100.4, and could possibly have been
   running temps while in CVVH. A possibilty is that he is still infected,
   or has developed a temp while in the cefepime and vanc. He may still be
   septic. Considering liver abcess or infected cyst.
   - broaden antibiotic coverage to include anaerobic, possibly in his
   abdomen
 Cefepime broaded to Zosyn on [**4-12**], continue flagyl
   - CT abdomen to assess for liver abscess
   - goal CVP >13-15 givenn on PEEP
   - Restart CVVH given hypotension and getting CT scan with contrast
   - i/o goal even to slightly positive.. will need CVVH
   Respiratory failure:  ARDS [**2-8**] influenza (?secondary bacterial
   infection), pulmonary HTN [**2-8**] emphysema/COPD. Patients extubation
   yesterday limited by HR, currently on bolus sedation over night.
   - check RSBI in the AM, and extubate when normotensive
   - Influeza A: s/p 5 days Oseltamivir 75mg
   - ?Secondary bacterial infection: Given (1) CT lung findings of
   consolidations and effusions, (2) sputum negative but after abx given,
   on vancomycin day 7 today, cefepime broadened to zosyn.
   - Supportive care: Nebs, suction, chest PT
   EKG changes
   ST depressions on anterior / lateral leads, improving slowly with rate
   control.  Currently back on pressors, so holding off on rate control
   with beta blocker. Goal HR currently <120. if consistently above, will
   restart amiodarone with a bolus, since he has been off of it since [**4-10**]
   Will continue to follow with more aggressive rate control once
   normotensive.
   Thrombocytopenia:  improved today to platelets 100
 79. HIT is less
   likely.
   Many potential causes including acute illness, sepsis, liver disease,
   drug effect (vanco? Ppi?)
   HITT score this AM = 5 for pretest probability.
   Will HOLD ALL heparin products. dialysis line does not have heparin,
   but central line does.
   - f/u HITT antibody.
   - d/c vancomycin if cultures negative
   - trend platelets
   - will take out heparin coated central line if spikes fever >101.
   leave for now as platelets trending up.
   ID
   Likely influenza vs bacterial pneumonia. Liver cyst/abscess?
   Antibiotics dosed before cultures.
   Cont antibiotics, broaded to zosyn, peel back if cutlures negative,
   hypotension resolved.
   Distended abdomen
   Abdomen continues distended but stable.  Initial bladder pressure WNL
   at ~10mmgHg.
   Unclear cause.  C diff negative so far.
   [**Month (only) 60**] have mucus production in pouch w/ dilation.  Rectal tube no
   improvement.  Surgery reports cannot correct surgically now.
   Cont follow clinically.
   -          NG tube to suction
   -          considering liver abscess, infection, on zosyn for anaerobic
   coverage. Will get CT scan to r/o, keepign in mind since he has so many
   cysts, it may be difficult to tell.
   ESRD: s/p bilateral nephrectomy
   On outpatient HD.  Temporary HD catheter at femoral site.
   Goal EVEN to positive
   - Talk to renal about restarting CVVH since hypotension has recurred
   ESLD
   C/b shock liver.  LFTs improving.  Cont to trend.
    - LFTs trending down; maintain MAPs>60
   Afib with RVR:
   Hold currently still hypotensive. Will start amiodarone if  HR >120.
   H/o PE
   patients INR subratherapeutic on admission, now subtherapateutic.
   - consider starting very low dose coumadin
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2200-04-12 09:55:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   - Hypotensive this AM (may be [**2-8**] increased beta blockade) requiring
   phenylephrine
   - ECG improving ST changes
   - Mildly febrile (but was axilla and on CVH)
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-10**] 01:27 PM
   Cefipime - [**2200-4-11**] 04:30 PM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-12**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 88 (78 - 104) bpm
   BP: 103/61(71) {91/41(52) - 103/61(71)} mmHg
   RR: 26 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
   CVP: 15 (6 - 16)mmHg
   Bladder pressure: 11 (9 - 17) mmHg
   Total In:
                                                                  4,824 mL
                                                                  2,612 mL
   PO:
   TF:
   IVF:
                                                                  4,614 mL
                                                                  2,462 mL
   Blood products:
   Total out:
                                                                  6,081 mL
                                                                  2,489 mL
   Urine:
                                                                    173 mL
                                                                      8 mL
   NG:
                                                                     50 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,257 mL
                                                                    123 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 571 (571 - 675) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/34/111/23/0
   Ve: 16.9 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Sedated but responsive and interactive
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   100 K/uL
   76 mg/dL
   2.1 mg/dL
   23 mEq/L
   3.6 mEq/L
   27 mg/dL
   99 mEq/L
   135 mEq/L
   33.4 %
   5.4 K/uL
        [image002.jpg]
                             [**2200-4-10**]  10:15 PM
                             [**2200-4-11**]  03:21 AM
                             [**2200-4-11**]  10:38 AM
                             [**2200-4-11**]  10:52 AM
                             [**2200-4-11**]  03:22 PM
                             [**2200-4-11**]  03:43 PM
                             [**2200-4-11**]  08:51 PM
                             [**2200-4-11**]  09:15 PM
                             [**2200-4-12**]  02:27 AM
                             [**2200-4-12**]  03:13 AM
   WBC
   4.1
   5.4
   Hct
   32.6
   33.4
   Plt
   79
   100
   Cr
   2.4
   2.5
   2.3
   2.1
   TropT
   0.03
   0.04
   TCO2
   24
   24
   24
   23
   24
   Glucose
   76
   86
   82
   83
   76
   Other labs: PT / PTT / INR:17.3/31.4/1.6, CK / CKMB /
   Troponin-T:207/5/0.04, ALT / AST:475/245, Alk Phos / T Bili:92/4.7,
   Amylase / Lipase:72/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.8 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR: may be a little more edema and effusion on the right
   Microbiology: Stool neg ([**4-10**])
   ECG: ECG: resolving ST depressions
   Assessment and Plan
   Assessment and Plan
   67 yr old man with chronic renal and kidney disease now with
   respiratory failure and shock secondary to influenza and possibly
   bacterial superinfection.  His respiratory status and shock improved
   over a few days, this AM he seems a little worse (back on pressors and
   mildly febrile)
   Shock - improved
          Sepsis due to influenza +/- secondary bacterial infection.
          Treated influenza.
          Had stopped Cefepime and Vanco (no source and concern for
   med related thrombocytopenia) on [**4-11**] but now mildly febrile (lines, VAP
   etc) so restarted today (pending repeat clx): RUQ appears tender will
   CT today and start Vanco and Pip-Tazo.   Will rapidly titrate off if no
   signs of infection.
          Run even today
   Respiratory failure
   With underlying emphysema and Influenza
   Mental status improved (following simple commands)
   Has been tolerating CPAP and PS. He tolerates SBT t (need adequate rate
   control, resolution of his ST changes and also to figure out if he is
   getting septic again prior to extubating)
   Afib with RVR
   Likely exacerbation in setting of sepsis.
   Seems to be slowly improving with Beta blockade (but hypotensive
   concering for new source of infection). Will probably reload with amio
   if rate becomes an issue in setting of his hypotension (sustained >
   120)
   Repeat daily ECG
   Liver reports that amiodarone is acceptable in his condition
   ESRD
   Will need to continued CVHD  in the setting of mild fevers)
   He is likely euvolemic at present
   Abdominal distention
   NG to suction
   Ask liver/GI to comment
   - rectal tube didnt seem to make a difference.
   - CT abd today for increasing pain and low grade fever. Follow up
   results.
   Liver disease
   By history, he has end-stage liver disease.  However, there is an acute
   component of ischemic hepatitis (shock liver) as well.  Hepatology is
   following.
   Coagulopathy
   -Likely related to shock, synthetic dysfunction, and warfarin in the
   setting of receiving quinolone and amiodarone
   - Hx of PE and Afib , sub therapeutic on coumadin but also with low
   Plts (actually increased to 100 today)
   ST depressions
   -  Recheck EKG.  Troponins reassuring.  Continue rate control as needed
   (challengin in setting of hypotension). Will likely go for amio if we
   need it.
   Thrombocytopenia: seems be resolving plts 100 today.  (Sepsis vs HIT vs
   sequestering in setting of liver failure).
   -          check HIT
   -          hold heparin products (although line does have heparin coat)
   -          keep antibiotics and other things in ddx.  If continues to
   fall and HIT (-), stop vanco.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:  Will update family as to this step back to consider his
   overall goals
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   Addendum: Abd CT demonstrated known enumerable cystic lesions in liver
   but no clear cholecystitis, presence of gb stones.

2200-04-13 07:22:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
 BLOOD CULTURED - At [**2200-4-12**] 11:33 AM
 BLOOD CULTURED - At [**2200-4-12**] 11:33 AM
 BLOOD CULTURED - At [**2200-4-12**] 11:33 AM
 EKG - At [**2200-4-12**] 11:33 AM
 INVASIVE VENTILATION - STOP [**2200-4-12**] 06:40 PM
   -------------------------
   - Renal: Holding on CVVH today, as well-dialyzed.
   - Depressed but hold on antidepressants given h/o hallucinations
   - Extubated
   - HR: Using metoprolol 2.5 mg IV Q8H with no success in controlling
   tachycardia to 110s.  Increased standing metoprolol to 5mg IV Q8H with
   holding parameters
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2200-4-11**] 04:30 PM
   Vancomycin - [**2200-4-12**] 05:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-4-13**] 02:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2200-4-12**] 11:00 AM
   Morphine Sulfate - [**2200-4-12**] 01:00 PM
   Pantoprazole (Protonix) - [**2200-4-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-13**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 94 (85 - 112) bpm
   BP: 115/60(77) {71/48(61) - 133/70(89)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
    CVP: 6 (2 - 15)mmHg
   Total In:
                                                                  3,828 mL
                                                                    453 mL
   PO:
   TF:
   IVF:
                                                                  3,009 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  3,189 mL
                                                                      0 mL
   Urine:
                                                                      8 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    639 mL
                                                                    453 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 633 (571 - 779) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.42/35/103/23/0
   Ve: 16.6 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   119 K/uL
   10.9 g/dL
   158 mg/dL
   3.2 mg/dL
   23 mEq/L
   4.0 mEq/L
   41 mg/dL
   102 mEq/L
   135 mEq/L
   33.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2200-4-11**]  10:52 AM
                             [**2200-4-11**]  03:22 PM
                             [**2200-4-11**]  03:43 PM
                             [**2200-4-11**]  08:51 PM
                             [**2200-4-11**]  09:15 PM
                             [**2200-4-12**]  02:27 AM
                             [**2200-4-12**]  03:13 AM
                             [**2200-4-12**]  05:31 PM
                             [**2200-4-12**]  08:33 PM
                             [**2200-4-13**]  03:57 AM
   WBC
   5.4
   5.4
   Hct
   33.4
   33.2
   Plt
   100
   119
   Cr
   2.3
   2.1
   3.2
   TCO2
   24
   24
   23
   24
   24
   23
   Glucose
   82
   83
   76
   158
   Other labs: PT / PTT / INR:18.0/31.1/1.6, CK / CKMB /
   Troponin-T:207/5/0.04, ALT / AST:475/245, Alk Phos / T Bili:92/4.7,
   Amylase / Lipase:72/14, Differential-Neuts:84.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Rads
   Cta abd/ pelvis
   1. Massively enlarged multicystic liver, without gross change in
   appearance
   from [**2200-4-7**]. Assessment for superimposed infection is limited
   due to
   the extent of multicystic involvement.
   2. Moderate amount of complex ascites unchanged.
   3. Cholelithiasis, without definite evidence of cholecystitis.
   4. Small bilateral pleural effusions; bilateral lower lobe
   consolidation
   and/or atelectasis, similar to prior study.
   Assessment and Plan
   67M h/o ESLD/ESRD [**2-8**] polycystic kidney disease, ARDS [**2-8**] influenza,
   pulmonary HTN, on oseltamivir (day1 = [**4-6**]), cefepime (day1 = [**4-6**]),
   vancomycin (day1 = [**4-6**], dosing by level).
   Hypotension: Patient hypotensive again today with sbps in the 70s, not
   resolving with small fluid boluses, patient put back in phenylephrine.
   Considering medication effect since we have been rapidly uptitrating
   her bblocker in order to control her rate before he is extubated. He
   also had an axillary temp today of 100.4, and could possibly have been
   running temps while in CVVH. A possibilty is that he is still infected,
   or has developed a temp while in the cefepime and vanc. He may still be
   septic. Considering liver abcess or infected cyst.
   - broaden antibiotic coverage to include anaerobic, possibly in his
   abdomen
 Cefepime broaded to Zosyn on [**4-12**], continue flagyl
   - CT abdomen to assess for liver abscess
   - goal CVP >13-15 givenn on PEEP
   - Restart CVVH given hypotension and getting CT scan with contrast
   - i/o goal even to slightly positive.. will need CVVH
   Respiratory failure:  ARDS [**2-8**] influenza (?secondary bacterial
   infection), pulmonary HTN [**2-8**] emphysema/COPD. Patients extubation
   yesterday limited by HR, currently on bolus sedation over night.
   - check RSBI in the AM, and extubate when normotensive
   - Influeza A: s/p 5 days Oseltamivir 75mg
   - ?Secondary bacterial infection: Given (1) CT lung findings of
   consolidations and effusions, (2) sputum negative but after abx given,
   on vancomycin day 7 today, cefepime broadened to zosyn.
   - Supportive care: Nebs, suction, chest PT
   EKG changes
   ST depressions on anterior / lateral leads, improving slowly with rate
   control.  Currently back on pressors, so holding off on rate control
   with beta blocker. Goal HR currently <120. if consistently above, will
   restart amiodarone with a bolus, since he has been off of it since [**4-10**]
   Will continue to follow with more aggressive rate control once
   normotensive.
   Thrombocytopenia:  improved today to platelets 100
 79. HIT is less
   likely.
   Many potential causes including acute illness, sepsis, liver disease,
   drug effect (vanco? Ppi?)
   HITT score this AM = 5 for pretest probability.
   Will HOLD ALL heparin products. dialysis line does not have heparin,
   but central line does.
   - f/u HITT antibody.
   - d/c vancomycin if cultures negative
   - trend platelets
   - will take out heparin coated central line if spikes fever >101.
   leave for now as platelets trending up.
   ID
   Likely influenza vs bacterial pneumonia. Liver cyst/abscess?
   Antibiotics dosed before cultures.
   Cont antibiotics, broaded to zosyn, peel back if cutlures negative,
   hypotension resolved.
   Distended abdomen
   Abdomen continues distended but stable.  Initial bladder pressure WNL
   at ~10mmgHg.
   Unclear cause.  C diff negative so far.
   [**Month (only) 60**] have mucus production in pouch w/ dilation.  Rectal tube no
   improvement.  Surgery reports cannot correct surgically now.
   Cont follow clinically.
   -          NG tube to suction
   -          considering liver abscess, infection, on zosyn for anaerobic
   coverage. Will get CT scan to r/o, keepign in mind since he has so many
   cysts, it may be difficult to tell.
   ESRD: s/p bilateral nephrectomy
   On outpatient HD.  Temporary HD catheter at femoral site.
   Goal EVEN to positive
   - Talk to renal about restarting CVVH since hypotension has recurred
   ESLD
   C/b shock liver.  LFTs improving.  Cont to trend.
    - LFTs trending down; maintain MAPs>60
   Afib with RVR:
   Hold currently still hypotensive. Will start amiodarone if  HR >120.
   H/o PE
   patients INR subratherapeutic on admission, now subtherapateutic.
   - consider starting very low dose coumadin
   ICU Care
   Nutrition:
   TPN without Lipids - [**2200-4-12**] 08:06 PM 42 mL/hour
   Glycemic Control:  ssi, well controlled
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: pantoprazole iv bid
   VAP:  na
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 66**] status: Full code
   Disposition:

2200-04-13 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated [**4-12**] early evening.
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2200-4-11**] 04:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-4-13**] 07:30 AM
   Vancomycin - [**2200-4-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2200-4-12**] 11:00 AM
   Morphine Sulfate - [**2200-4-12**] 01:00 PM
   Pantoprazole (Protonix) - [**2200-4-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-13**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 87 (84 - 112) bpm
   BP: 111/53(68) {99/49(64) - 133/70(89)} mmHg
   RR: 24 (22 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
   CVP: 2 (2 - 9)mmHg
   Total In:
                                                                  3,828 mL
                                                                    888 mL
   PO:
   TF:
   IVF:
                                                                  3,009 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                  3,189 mL
                                                                      0 mL
   Urine:
                                                                      8 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    639 mL
                                                                    888 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 633 (633 - 779) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.42/35/103/23/0
   Ve: 16.6 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   119 K/uL
   158 mg/dL
   3.2 mg/dL
   23 mEq/L
   4.0 mEq/L
   41 mg/dL
   102 mEq/L
   135 mEq/L
   33.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2200-4-11**]  10:52 AM
                             [**2200-4-11**]  03:22 PM
                             [**2200-4-11**]  03:43 PM
                             [**2200-4-11**]  08:51 PM
                             [**2200-4-11**]  09:15 PM
                             [**2200-4-12**]  02:27 AM
                             [**2200-4-12**]  03:13 AM
                             [**2200-4-12**]  05:31 PM
                             [**2200-4-12**]  08:33 PM
                             [**2200-4-13**]  03:57 AM
   WBC
   5.4
   5.4
   Hct
   33.4
   33.2
   Plt
   100
   119
   Cr
   2.3
   2.1
   3.2
   TCO2
   24
   24
   23
   24
   24
   23
   Glucose
   82
   83
   76
   158
   Other labs: PT / PTT / INR:18.0/31.1/1.6, CK / CKMB /
   Troponin-T:207/5/0.04, ALT / AST:475/245, Alk Phos / T Bili:92/4.7,
   Amylase / Lipase:72/14, Differential-Neuts:84.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR: increasing volume on the lungs bilateral.
   Ct abd: no clear evidence of infection, ? fluid stable in the right
   gutter.
   Microbiology: c. dif neg
   Blood clx: NGTD
   Assessment and Plan
   67 yr old man with chronic renal and kidney disease now with
   respiratory failure and shock secondary to influenza and possibly
   bacterial superinfection.  His respiratory status and shock improved
   over a few days, [**4-12**] febrile but no clear source. Extubated yesterday
   to face mask, looks tenuous at present
   Shock - improved
          Sepsis due to influenza +/- secondary bacterial infection.
          Treated influenza. Repeated the aspirate in the setting of
   fever yesterday (still pending)
          Had stopped Cefepime and Vanco (no source and concern for
   med related thrombocytopenia) on [**4-11**] but now mildly febrile (lines, VAP
   etc) so restarted ABx (pending repeat clx): RUQ appears CT not
   impressive for infection, Will cont Vanco and Pip-Tazo.   Will rapidly
   titrate off if no signs of infection (clx still pending at present).
   Reconsider our coverage on monday if stable and all clx neg
   Respiratory failure: no extubated, but quite weak. supportuve pulm
   toile, complicated by  underlying emphysema and Flu.
   - sounds and looks vol. Will trial albumin (CVP is 5) and see if we can
   aim for goal net neg fluid 500 cc.
    With underlying emphysema and Influenza (repeat flu assay pending)
   Mental status improved (following simple commands):no signicant change
   over past 24 hrs. Able to respond to name.
   Afib with RVR
   Likely exacerbation in setting of sepsis.
    Seems to be slowly improving with Beta blockade (but hypotensive
   concering for new source of infection). Will probably reload with amio
   if rate becomes an issue in setting of his hypotension (sustained >
   120)
    Repeat daily ECG
    Liver reports that amiodarone is acceptable in his condition
   ESRD
    Will need to continued CVHD  in the setting of volume overload.
   Looks volumer overloaded.
    Abdominal distention
    Place NG to suction
   CT abd as above
   Liver disease
    By history, he has end-stage liver disease.  However, there is an
   acute component of ischemic hepatitis (shock liver) have been trending
   down.  Hepatology is following.
   Coagulopathy
   -Likely related to shock, synthetic dysfunction, and warfarin in the
   setting of receiving quinolone and amiodarone
   - Hx of PE and Afib , sub therapeutic on coumadin but also with low
   Plts (actually increased to 117 today). will restart today and let
   drift up (no hep gtt).
    ST depressions
   -  Rechecked  EKG (no clear change), ctrl rate control.   Troponins
   reassuring.  Continue rate control as needed (challengin in setting of
   hypotension). Will likely go for amio if we need it.
   Thrombocytopenia: seems be resolving plts 117 (slow trend up)
   (Sepsis vs HIT vs sequestering in setting of liver failure).
   -          check HIT (pending)
    -          hold heparin products (although line does have heparin
   coat)
   other issues per ICU resident note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2200-4-12**] 08:06 PM 42 mL/hour
   Comments: Will try to place NG tube
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT: Boots(restart coumadin)
   Stress ulcer: Pantop IV
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2200-04-15 07:17:00 Physician Resident Progress Note
Chief Complaint: 67M h/o ESLD/ESRD [**2-8**] polycystic kidney disease, ARDS
   [**2-8**] influenza, s/p oseltamivir  5 d course (day1 = [**4-6**]), cefepime
   (day1 = [**4-6**]-> [**4-12**]), zosyn (day 1=[**4-12**]), vancomycin (day1 = [**4-6**], dosing
   by level), pulmonary HTN, with continued respiratory failure
   24 Hour Events:
   -Restarted on CVVH
   - Decreased MAP late in the evening (55), CVVH slowed and neo gtt
   initiated to maintain MAP >60, now at goal
   - Tolerating TF, discontinued TPN given fluid status
   - Bedside swallowing eval -> NPO with tubefeeds via NGT, will re-eval
   later in the week
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-14**] 03:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-4-15**] 05:53 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-14**] 07:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-15**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 82 (79 - 86) bpm
   BP: 103/49(64) {87/38(54) - 127/66(84)} mmHg
   RR: 25 (20 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
    CVP: 6 (6 - 359)mmHg
   Total In:
                                                                  5,825 mL
                                                                  1,945 mL
   PO:
   TF:
                                                                     85 mL
                                                                    170 mL
   IVF:
                                                                  3,524 mL
                                                                  1,726 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  4,913 mL
                                                                  2,097 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    912 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.41/38/63/23/0
   PaO2 / FiO2: 126
   Physical Examination
   Gen: Mental status improving, conversant, NAD
   HEENT: NCAT, shovel mask
   CV: irreg irreg, difficult to auscultate [**2-8**] BS
   Pulm: Poor air movement, upper airway congestions, coarse
   Abd: Distended and non-compressible on right
   Ext: boots in place
   Labs / Radiology: CXR [**4-15**]: little overall change
   247 K/uL
   10.0 g/dL
   108 mg/dL
   2.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   35 mg/dL
   102 mEq/L
   138 mEq/L
   34.2 %
   14K/uL
        [image002.jpg]
   AST: 152 ALT: 43
   AP 128 Tbili: 3.6   INR 1.7
                             [**2200-4-14**]  05:59 AM
                             [**2200-4-14**]  12:26 PM
                             [**2200-4-14**]  12:42 PM
                             [**2200-4-14**]  03:21 PM
                             [**2200-4-14**]  06:04 PM
                             [**2200-4-14**]  06:14 PM
                             [**2200-4-14**]  11:24 PM
                             [**2200-4-15**]  12:05 AM
                             [**2200-4-15**]  05:38 AM
                             [**2200-4-15**]  06:02 AM
   Cr
   3.6
   3.0
   2.5
   TCO2
   25
   24
   23
   23
   24
   25
   Glucose
   141
   149
   131
   108
   Other labs: PT / PTT / INR:18.0/31.1/1.6, CK / CKMB /
   Troponin-T:207/5/0.04, ALT / AST:194/49, Alk Phos / T Bili:71/2.9,
   Amylase / Lipase:72/14, Differential-Neuts:84.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   67M h/o ESLD/ESRD [**2-8**] polycystic kidney disease, ARDS [**2-8**] influenza,
   s/p oseltamivir  5 d course (day1 = [**4-6**]), cefepime (day1 = [**4-6**]->
   [**4-12**]), zosyn (day 1=[**4-12**]), vancomycin (day1 = [**4-6**], dosing by level),
   pulmonary HTN, with continued respiratory failure.
    #Respiratory failure:
   Extubated on [**4-12**] and tolerating shovel mask
   - ARDS [**2-8**] influenza with ?secondary bacterial infection, pulmonary HTN
   [**2-8**] emphysema/COPD. Extubated [**4-12**].  Improved overall, will need to wean
   O2 based on diuresis from CVVH, restarted yesterday.  No new fevers in
   24 hrs (low grade at 99)
   - Influenza A: s/p 5 days Oseltamivir 75mg
   - ?Secondary bacterial infection: Given (1) CT lung findings of
   consolidations and effusions, (2) sputum negative but after abx given,
   cefepime broadened to zosyn for abdominal coverage.  New leukocytosis
   with bands today, concern for evolving sepsis.  Will cont antibiotics
   (vanc/zosyn) and add Cipro for double pseudomonal coverage.
   - CVVH-restarted yesterday, patient developed hypotension with MAPs in
   the 50s requiring neo gtt, not able to be weaned as at goal MAP of 60.
   Given concern for new infection, HD line to be pulled today (CVP of 2
   so not likely intravascularly volume overloaded at this time). Will
   reassess need for CVVH tomorrow based on resp status and blood
   pressure.
   - Continue to follow cultures, all bcx NGTD
   - Supportive care: Nebs, suction, chest PT
   # ID/Leukocytosis with bandemia:
   Significantly increased WBC today.  Platelets also increased likely as
   well likely as acute phase reactant.  Patient has been afebrile and
   clinically improved other than hypotension during CVVH.
   - HD and RIJ lines pull today, send for culture, will resite IJ
   - Add cipro for double pseudomonal coverage
   - Recheck sputum
   - Panculture now including mycolytic cultures as patient unlikely to
   spike in the setting of CVVH
   #Hypotension
   Likely secondary to fluid shifts from CVVH. Though concern for evolving
   infection.
   - MAP goal > 60, currently on neo, will attempt to wean as tolerated.
   Now off CVVH.
   - Sepsis vs cardiogenic- RV dilated on 2nd TTE on [**4-7**].  Will get
   repeat ECHO today, see below.
   - Albumin challenge 25 g x 1 and CVVH yesterday
   #EKG changes
   - ST depressions on anterior / lateral leads, with moderate improvement
   w/ rate control.
   - Will cont optimize medical regimen, w/ goal HR 80s (given limitation
   of SBP).
   - PO metop dc
d today given hypotension and pressors.  Heart rate still
   controlled, amio if returns to RVR
   - Cont trend EKGs
   - HR control / BP control
   - Repeat ECHO to reevaluate RV for prognosis as well as to guide
   management with CVVH and pressors
   #Thrombocytopenia
   - Improved today, though likely a result of infection/acute phase
   reactant.
   - Doubt heparin since still has heparin coated line in place.  However,
   did improve as reduced heparin products.  Overall doubt HIT still.
   Nonetheless, will hold on heparin gtts for bridge for PE treatment
   (starting coumadin though).
   - Many potential causes including acute illness, sepsis/DIC, liver
   disease with sequestration, drug effect (vanco? Ppi?)
   - Will continue to hold all heparin products except for heparinized
   central lines
   - f/u HIT antibody.
   - Continue to trend
   #Distended abdomen
   - Abdomen continues distended but stable.
   - Unclear cause.  C diff negative so far x3.
   - [**Month (only) 60**] have mucus production in pouch w/ dilation.  Rectal tube no
   improvement.  Surgery reports cannot correct surgically now.
   - Cont follow clinically.
   #ESRD: s/p bilateral nephrectomy
   - On outpatient HD.  Temporary HD catheter at femoral site.
   - Goal EVEN to negative 500cc, gentle diuresis in the setting of
   hypotension during CVVH, requiring pressors as above
   - Continue to follow with renal.
    #ESLD
   - C/b shock liver.  LFTs improving.  Cont to trend.
   - LFTs trending down; maintain MAPs>60
   #Afib with RVR:
   - On PO meoprolol 12.5 [**Hospital1 **] via NGT, dc
d in the setting of hypotension
   and pressors.
   - If patient has repeat RVR, can load with amiodarone as beta blockade
   will lead to further reduction in SBP.
   #H/o PE
   - patients INR supratherapeutic on admission, now subtherapateutic.
   Goal [**2-9**].
   - Coumadin 5mg daily, no heparin as above.  Will continue current dose
   as will likely increase over next several days, especially with
   addition of Cipro
   - Home dose 4mg QOD 5 mg QOD.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2200-4-15**] 06:41 AM 30 mL/hour
   Glycemic Control:  ISS
   Lines:
   Presep Catheter (RIJ)- [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   Dialysis Catheter - [**2200-4-7**] 07:00 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  Pantoprazole
   VAP:  Not ventillated
   Comments:
   Communication:  Comments:
   Code status: Full code, will need to be readdress at a family meeting
   Disposition: ICU level of care

2200-04-16 06:50:00 Physician Resident Progress Note
Chief Complaint: 67 yo M with ESLD/ESRD [**2-8**] PKD, ARDS [**2-8**] influenza s/p
   oseltamivir treatment (5 day course), on zosyn, vanc, and cipro (day
   1=[**2200-4-15**]) with pulm hypertension with new evolving infection.
   24 Hour Events:
   -Femoral line removed (off CVVH), tip sent for culture
   -repeat blood/mycolytic and sputum cultures, sputum sample cancelled
   for OP flora.
   -repeat code discussion (PTROY), still FULL code
   -renal recs, if off pressors tomorrow will try HD via LUE AVF tomorrow,
   decrease zosyn to 2.25gIV Q6, redose vanc 1g if level <15
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-15**] 11:49 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-4-16**] 12:31 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-16**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.2
   HR: 85 (80 - 97) bpm
   BP: 105/55(69) {78/39(51) - 110/55(69)} mmHg
   RR: 27 (20 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
    CVP: 10 (1 - 12)mmHg
   Total In:
                                                                  4,791 mL
                                                                    659 mL
   PO:
   TF:
                                                                    939 mL
                                                                    292 mL
   IVF:
                                                                  3,582 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  4,809 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -18 mL
                                                                    659 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: 7.42/35/70/23/0
   PaO2 / FiO2: 175
   Physical Examination
   Gen: Conversant, NAD
   HEENT: NCAT, shovel mask in place
   CV: irreg irreg, difficult to auscultate
   Pulm: Poor air mvmt, upper airway congestion
   Abd: distended, non-compressible, ostomy in place
   Ext: pneumoboots
   Labs / Radiology
   177 K/uL
   10.5 g/dL
   130 mg/dL
   3.4 mg/dL
   23 mEq/L
   4.0 mEq/L
   42 mg/dL
   98 mEq/L
   134 mEq/L
   31.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2200-4-14**]  03:21 PM
                             [**2200-4-14**]  06:04 PM
                             [**2200-4-14**]  06:14 PM
                             [**2200-4-14**]  11:24 PM
                             [**2200-4-15**]  12:05 AM
                             [**2200-4-15**]  05:38 AM
                             [**2200-4-15**]  06:02 AM
                             [**2200-4-15**]  07:58 AM
                             [**2200-4-15**]  11:26 AM
                             [**2200-4-16**]  03:39 AM
   WBC
   14.0
   14.7
   12.9
   Hct
   34.2
   35.4
   31.6
   Plt
   247
   216
   177
   Cr
   3.0
   2.5
   3.4
   TCO2
   23
   23
   24
   25
   23
   Glucose
   149
   131
   108
   130
   Other labs: PT / PTT / INR:20.1/35.7/1.9, CK / CKMB /
   Troponin-T:207/5/0.04, ALT / AST:122/34, Alk Phos / T Bili:121/3.0,
   Amylase / Lipase:72/14, Differential-Neuts:66.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:15.0 %, Eos:1.0 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: Radiology: [**2200-4-15**] CXR: little interval change
   Microbiology: HD catheter tip: NGTD
   BCx x2 [**2200-4-15**]: NGTD
   Mycolytic cx [**2200-4-15**]: NGTD
   Sputum [**2200-4-15**]: contaminated
   Bcx x4 [**2200-4-12**]: NGTD
   Assessment and Plan
   Assessment and Plan
   67M h/o ESLD/ESRD [**2-8**] polycystic kidney disease, ARDS [**2-8**] influenza,
   s/p oseltamivir  5 d course (day1 = [**4-6**]), cefepime (day1 = [**4-6**]->
   [**4-12**]), zosyn (day 1=[**4-12**]), vancomycin (day1 = [**4-6**], dosing by level), now
   on cipro as well (day 1=[**4-15**]) and pulmonary HTN, with continued
   respiratory failure and new evolving infection.
   #Respiratory failure:
   Extubated on [**4-12**] and tolerating shovel mask
   - ARDS [**2-8**] influenza with ?secondary bacterial infection, pulmonary HTN
   [**2-8**] emphysema/COPD. Extubated [**4-12**].  Improved overall, will need to wean
   O2 based on diuresis from CVVH.  HD catheter removed yesterday so no
   CVVH overnight. Will likely require new line today for fluid removal.
   Patient has been afebrile (99.9).
   - Influenza A: s/p 5 days Oseltamivir 75mg
   - ?Secondary bacterial infection: Given (1) CT lung findings of
   consolidations and effusions, (2) sputum negative but after abx given,
   cefepime broadened to zosyn for abdominal coverage.  New leukocytosis
   with bands, concern for evolving sepsis.  Will cont antibiotics
   (vanc/zosyn) and Cipro added yesterday for double pseudomonal coverage.
   - Continue to follow cultures, all bcx NGTD
   - Supportive care: Nebs, suction, chest PT
   # ID/Leukocytosis with bandemia:
   WBC significantly increased yesterday, slightly decreased today, but
   still with bandemia.  Patient has been afebrile and clinically improved
   other than hypotension during CVVH.
   - HD line pulled yesterday. Plan to pull RIJ today and send for culture
   if patient can tolerate resiting.
   -Cipro added for double pseudomonal coverage
   - Pancultured yesterday, will follow results
   #Hypotension
   Likely secondary to fluid shifts from CVVH. Though concern for evolving
   infection.
   - MAP goal > 60, still on neo, will attempt to wean as tolerated. Now
   off CVVH.
   - Sepsis vs cardiogenic- RV dilated on 2nd TTE on [**4-7**].
   - Repeat ECHO yesterday, awaiting read
   #EKG changes
   - ST depressions on anterior / lateral leads, with moderate improvement
   w/ rate control.
   - Will cont optimize medical regimen, w/ goal HR 80s (given limitation
   of SBP).
   - PO metop dc
d given hypotension and pressors.  Heart rate still
   controlled, amio if returns to RVR
   - Cont trend EKGs
   - HR control / BP control
   - Follow ECHO as above to evaluate RV for prognosis as well as to guide
   management with CVVH and pressors
   #Thrombocytopenia
   - Improved, though likely a result of infection/acute phase reactant.
   - Doubt heparin since still has heparin coated line in place.  However,
   did improve as reduced heparin products.  Overall doubt HIT still.
   Nonetheless, will hold on heparin gtts for bridge for PE treatment
   (starting coumadin though).
   - Many potential causes including acute illness, sepsis/DIC, liver
   disease with sequestration, drug effect (vanco? Ppi?)
   - Will continue to hold all heparin products except for heparinized
   central lines
   - f/u HIT antibody.
   - Continue to trend
   #Distended abdomen
   - Abdomen continues to be distended but stable.
   - Unclear cause.  C diff negative so far x3.
   - [**Month (only) 60**] have mucus production in pouch w/ dilation.  Rectal tube no
   improvement.  Surgery reports cannot correct surgically now.
   - Cont follow clinically.
   #ESRD: s/p bilateral nephrectomy
   - On outpatient HD.  Temporary HD catheter at femoral site removed
   yesterday.
   - Patient with volume overload today, goal even to negative 500cc,
   gentle diuresis in the setting of hypotension during CVVH, requiring
   pressors as above
   - Continue to follow with renal, will likely require CVVH today as he
   is anuric.
    #ESLD
   - C/b shock liver.  LFTs improving.  Cont to trend.
   - LFTs trending down; maintain MAPs>60
   #Afib with RVR:
   - On PO metoprolol 12.5 [**Hospital1 **] via NGT, dc
d in the setting of hypotension
   and pressors.
   - If patient has repeat RVR, can load with amiodarone as beta blockade
   will lead to further reduction in SBP.
   #H/o PE
   - patients INR supratherapeutic on admission, now subtherapateutic,
   near goal [**2-9**].
   - Coumadin 5mg daily, no heparin as above.  Will continue current dose
   as will likely increase over next several days, especially with
   addition of Cipro
   - Home dose 4mg QOD 5 mg QOD.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2200-4-16**] 02:01 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2200-04-17 07:27:00 Physician Resident Progress Note
Chief Complaint: 67yoM with ESRD/ESLD [**2-8**] PKD, ARDS [**2-8**] influenza s/p
   oseltamivir treatement on vanc, zosyn, cipro with pulmonary
   hypertension with evolving infection and pressor dependent, no DNR/DNI
   24 Hour Events:
   - Made DNR/DNI yesterday
   - Family in overnight, will discuss dc of pressors today
   Allergies:
   Penicillins
   itchiness in gr
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-15**] 11:49 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-4-17**] 06:29 AM
   Infusions:
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-16**] 08:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-17**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 87 (78 - 97) bpm
   BP: 98/44(59) {88/43(55) - 141/135(138)} mmHg
   RR: 27 (23 - 29) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 88 kg
   Height: 74 Inch
    CVP: 18 (11 - 19)mmHg
   Total In:
                                                                  2,072 mL
                                                                    690 mL
   PO:
   TF:
                                                                  1,041 mL
                                                                    329 mL
   IVF:
                                                                    882 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,722 mL
                                                                    690 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   10.5 g/dL
   132 mg/dL
   4.6 mg/dL
   21 mEq/L
   4.7 mEq/L
   57 mg/dL
   98 mEq/L
   135 mEq/L
   31.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2200-4-14**]  06:04 PM
                             [**2200-4-14**]  06:14 PM
                             [**2200-4-14**]  11:24 PM
                             [**2200-4-15**]  12:05 AM
                             [**2200-4-15**]  05:38 AM
                             [**2200-4-15**]  06:02 AM
                             [**2200-4-15**]  07:58 AM
                             [**2200-4-15**]  11:26 AM
                             [**2200-4-16**]  03:39 AM
                             [**2200-4-17**]  04:44 AM
   WBC
   14.0
   14.7
   12.9
   Hct
   34.2
   35.4
   31.6
   Plt
   247
   216
   177
   Cr
   3.0
   2.5
   3.4
   4.6
   TCO2
   23
   24
   25
   23
   Glucose
   149
   131
   108
   130
   132
   Other labs: PT / PTT / INR:19.3/34.8/1.8, CK / CKMB /
   Troponin-T:207/5/0.04, ALT / AST:122/34, Alk Phos / T Bili:121/3.0,
   Amylase / Lipase:72/14, Differential-Neuts:66.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:15.0 %, Eos:1.0 %, Fibrinogen:298 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assessment and Plan
    67M h/o ESLD/ESRD [**2-8**] polycystic kidney disease, ARDS [**2-8**] influenza,
   s/p oseltamivir  5 d course (day1 = [**4-6**]), cefepime (day1 = [**4-6**]->
   [**4-12**]), zosyn (day 1=[**4-12**]), vancomycin (day1 = [**4-6**], dosing by level), now
   on cipro as well (day 1=[**4-15**]) and pulmonary HTN, with continued
   respiratory failure and new evolving infection.
   #Respiratory failure:
   ARDS [**2-8**] influenza with ?secondary bacterial infection, pulmonary HTN
   [**2-8**] emphysema/COPD. Extubated [**4-12**] and tolerating shovel mask.
   Respiratory status is stable, but unable to further wean oxygen.  HD
   catheter removed yesterday so no CVVH overnight.  Patient has been
   afebrile (99.9).
   - Influenza A: s/p 5 days Oseltamivir 75mg
   - ?Secondary bacterial infection: Given evolving leukocytosis with
   bands, concerning for evolving sepsis.    Will cont antibiotics
   (vanc/zosyn) and Cipro added yesterday for double pseudomonal coverage.
   - Continue to follow cultures, all bcx NGTD
   - Supportive care: Nebs, suction, chest PT
    # ID/Leukocytosis with bandemia:
   WBC significantly increased yesterday, slightly decreased today, but
   still with bandemia.  Patient has been afebrile and clinically stable
   although has developed hypotension during CVVH, unable to wean
   pressors.
   - HD line pulled yesterday. Initial plan to pull RIJ, though patient
   will not likely tolerated procedure of resiting.
   --Cipro added for double pseudomonal coverage
   - Pancultured yesterday, will follow results
   #Hypotension
   Likely secondary to fluid shifts from CVVH. Though concern for evolving
   infection.  TTE read pending, but history of RV dysfunction on prior
   ECHO.
   - MAP goal > 60, still on neo, will attempt to wean as tolerated. Now
   off CVVH.
   - Sepsis vs cardiogenic- RV dilated on 2nd TTE on [**4-7**].
   - Repeat ECHO yesterday, awaiting read
   #EKG changes
   - ST depressions on anterior / lateral leads, with moderate improvement
   w/ rate control.
   - Will cont optimize medical regimen, w/ goal HR 80s (given limitation
   of SBP).
   - PO metop dc
d given hypotension and pressors.  Heart rate still
   controlled, amio if returns to RVR
   - Cont trend EKGs
   - HR control / BP control
   - Follow ECHO as above to evaluate RV for prognosis as well as to guide
   management with CVVH and pressors
   #Thrombocytopenia
   - Improved, though likely a result of infection/acute phase reactant.
   - Doubt heparin since still has heparin coated line in place.  However,
   did improve as reduced heparin products.  Overall doubt HIT still.
   Nonetheless, will hold on heparin gtts for bridge for PE treatment
   (starting coumadin though).
   - Many potential causes including acute illness, sepsis/DIC, liver
   disease with sequestration, drug effect (vanco? Ppi?)
   - Will continue to hold all heparin products except for heparinized
   central lines
   - f/u HIT antibody.
   - Continue to trend
   #Distended abdomen
   - Abdomen continues to be distended but stable.
   - Unclear cause.  C diff negative x3.
   - [**Month (only) 60**] have mucus production in pouch w/ dilation.  Rectal tube no
   improvement.  Surgery reports cannot correct surgically now.
   - Cont follow clinically.
   #ESRD: s/p bilateral nephrectomy
   - On outpatient HD.  Temporary HD catheter at femoral site removed
   yesterday.
   - Patient with volume overload today, though he is anuric, and no HD
   today given line was pulled.
    - Continue to follow with renal
   #ESLD
   - C/b shock liver.  LFTs improving.  Cont to trend.
   - LFTs trending down; check QOD. Maintain MAPs>60
   #Afib with RVR:
   - Metoprolol dc
d in the setting of hypotension and pressors.
   - If patient has repeat RVR, can load with amiodarone as beta blockade
   will lead to further reduction in SBP.
   #H/o PE
   - patients INR supratherapeutic on admission, now subtherapateutic,
   near goal [**2-9**].
   - Coumadin 5mg daily, no heparin as above.  Will continue current dose
   as will likely increase over next several days, especially with
   addition of Cipro
   - Home dose 4mg QOD 5 mg QOD.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2200-4-16**] 10:46 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-4-6**] 02:12 PM
   Arterial Line - [**2200-4-6**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: